2108-03-11 06:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2108-3-10**]:
   - Gave two doses of Lopressor 5mg with a gradual decrease in HR to
   150s, then gave 10mg X1 beginning to trend down at 11pm
   - Restarted ceftriaxone, and started doxycycline in exchange for
   azithromycin as it can cause QT prolongation, for suspected CAP
   - Gave bolus of amiodarone 150mg at 11pm, systolic pressures in 100s
   - Remained in the 130's to 140's overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-3-11**] 12:00 AM
   Infusions:
   Heparin Sodium - 3,500 units/hour
   Amiodarone - 1 mg/min
   Other ICU medications:
   Metoprolol - [**2108-3-10**] 10:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-11**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 36.3
C (97.3
   HR: 133 (133 - 186) bpm
   BP: 120/72(82) {95/52(68) - 140/107(112)} mmHg
   RR: 19 (18 - 31) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 75 Inch
             Total In:
                                                                    827 mL
                                                                    771 mL
   PO:
                                                                    480 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    347 mL
                                                                    411 mL
   Blood products:
   Total out:
                                                                    640 mL
                                                                    380 mL
   Urine:
                                                                    640 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    187 mL
                                                                    391 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   222 K/uL
   11.8 g/dL
   95 mg/dL
   1.6 mg/dL
   24 mEq/L
   4.2 mEq/L
   25 mg/dL
   102 mEq/L
   138 mEq/L
   34.8 %
   15.4 K/uL
        [image002.jpg]
                             [**2108-3-10**]  05:35 PM
   WBC
   15.4
   Hct
   34.8
   Plt
   222
   Cr
   1.6
   Glucose
   95
   Other labs: PT / PTT / INR:15.1/74.1/1.3, Ca++:8.9 mg/dL, Mg++:1.8
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ATRIAL FIBRILLATION (AFIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-3-10**] 05:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2108-03-11 06:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2108-3-10**]:
   - Gave two doses of Lopressor 5mg with a gradual decrease in HR to
   150s, then gave 10mg X1 beginning to trend down at 11pm
   - Restarted ceftriaxone, and started doxycycline in exchange for
   azithromycin as it can cause QT prolongation, for suspected CAP
   - Gave bolus of amiodarone 150mg at 11pm, systolic pressures in 100s
   - Remained in the 130's to 140's overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-3-11**] 12:00 AM
   Infusions:
   Heparin Sodium - 3,500 units/hour
   Amiodarone - 1 mg/min
   Other ICU medications:
   Metoprolol - [**2108-3-10**] 10:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-11**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 36.3
C (97.3
   HR: 133 (133 - 186) bpm
   BP: 120/72(82) {95/52(68) - 140/107(112)} mmHg
   RR: 19 (18 - 31) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 75 Inch
             Total In:
                                                                    827 mL
                                                                    771 mL
   PO:
                                                                    480 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    347 mL
                                                                    411 mL
   Blood products:
   Total out:
                                                                    640 mL
                                                                    380 mL
   Urine:
                                                                    640 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    187 mL
                                                                    391 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///24/
   Physical Examination
   GENERAL: obese male in mild respiratory distress, able to speak in
   complete, however short, sentences, diaphoretic, flushed
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   NECK: Supple unable to appreciate JVP given habitus
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   irregularly irregular rhythm, tachycardic, normal S1, S2. No thrills,
   lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi, however difficult to appreciate secondary to habitus.
   ABDOMEN: Soft, obese NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: 2+ pitting edema to the thigh BL LE. No femoral bruits.
   SKIN: Stasis dermatitis BL, worse on left than right with redness worse
   on left than right, no ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1 PT 1
   Left: Carotid 2+ Femoral 2+ DP 1 PT 1
   Labs / Radiology
   223 K/uL
   11.8 g/dL
   133 mg/dL
   1.5 mg/dL
   26 mEq/L
   4.1 mEq/L
   25 mg/dL
   101 mEq/L
   136 mEq/L
   32.6
   13.7
        [image002.jpg]
   PTT 74.1 at 1am
                             [**2108-3-10**]  05:35 PM
   WBC
   15.4
   Hct
   34.8
   Plt
   222
   Cr
   1.6
   Glucose
   95
   Other labs: PT / PTT / INR:15.1/74.1/1.3, Ca++:8.9 mg/dL, Mg++:1.8
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   52 yo male with history of morbid obesity, WPW, HTN, hyperlipidemia
   presents with A fib with RVR.
   .
   # A fib with RVR:  As the patient has a history of WPW with wide
   complex tachycardia in [**2107-1-7**], will refrain from AV nodal blockade,
   especially verapamil, and digoxin as can induce conduction down the
   accessory pathway.  Also, as the patient has evidence of a [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 2186**]
   on [**Last Name (LF) 1163**], [**First Name3 (LF) 116**] refrain from DC cardioversion and chemical cardioversion
   with procainamide, unless the patient becomes hemodynamically
   unstable.  Likely febrile illness and over treatment with levothyroxine
   for Hashimoto's contributing to patient's a fib with rapid ventricular
   rate.
   - Continue Amiodarone drip at increased rate, with some boluses for
   attempt at rhythm/rate control
   - Continue to use metoprolol for rate control, pt tolerated 10mg bolus
   IV yesterday, for rate control
   - Continue heparin drip for anticoagulation
   - Will use lasix as needed for signs of heart failure, as the patient
   has been in a tachyarrhythmia for at least the last 24 hours and is at
   risk for tachycardia induced cardiomyopathy.
   - Consider EP consult for possible EP study to attempt to determine if
   the A fib is dependent on the accessory pathway
   .
   # [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]:
   - Confirmed presence by Dr. [**Last Name (STitle) 5195**] after reviewing [**Last Name (STitle) 1163**] from [**Hospital1 97**]
   - Continue Heparin drip
   .
   # Febrile Illness:  Fever, leukocytosis and productive cough likely
   secondary to respiratory illness.  As the patient has had cough,
   malaise and general body weakness flu is on differential, as well as
   other viral illness or CAP.
   - CXR showed evidence of questionable RLL and LLL pneumonia
   - Restarted Ceftriaxone (initially started at OSH) and doxycycline
   (azithromycin and levofloxacin can prolong the QT interval) for
   presumed CAP.
   - UA shows possible UTI, antibiotic coverage with ceftriaxone
   - F/U  Blood, sputum and urine cultures, nasal aspirate
   - continue droplet precautions until flu ruled out
   - If pt develops diarrhea, would consider C diff given recent
   antibiotic course, although unlikely.
   - Tylenol PRN
   .
   # Hypertension:
   - Continue to hold antihypertensives in the setting of A fib with RVR
   with episode of hypotension at OSH.  Will reevaluate and add back home
   antihypertensives, starting with the ACE as tolerated.
   .
   # Hyperlipidemia:  Unclear why the patient is not on a statin
   - F/U lipid studies
   .
   # Hashimoto's Thyroiditis:  Pt's TSH at OSH was 0.07, however free T4
   and T3 within normal limits.
   - TSH here 0.08, free T 4 wnl
   - continue to hold levothyroxine
   .
   # Depression:  Will hold sertraline for now as may prolong QT
   .
   # S/P Gastric Banding:  Continue vitamin supplementation and diet
   restrictions.
   .
   # OSA:  Will use home CPAP settings, pressure of 10, while inpatient
   .
   # FEN: 2gm NA diet, will monitor electrolytes
   .
   # ACCESS: R IJ placed at [**Hospital1 97**], confirm placement with CXR, if
   requires multi lumen catheter as of tomorrow, will consider resiting.
   .
   # PROPHYLAXIS: Heparin drip
   .
   # CODE: Full Code
   .
   # DISPO: pending above
   .
   # Contact:  [**Name (NI) 288**] [**Last Name (NamePattern1) 253**], sister, HCP, [**Telephone/Fax (1) 5190**], [**Name2 (NI) **] [**Last Name (NamePattern1) 5191**],
   fiance [**Telephone/Fax (1) 5192**]
   ICU Care
   Nutrition:  Heart healthy
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-3-10**] 05:02 PM
   Prophylaxis:
   DVT:  Heparin gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2108-03-11 06:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2108-3-10**]:
   - Gave two doses of Lopressor 5mg with a gradual decrease in HR to
   150s, then gave 10mg X1 beginning to trend down at 11pm
   - Restarted ceftriaxone, and started doxycycline in exchange for
   azithromycin as it can cause QT prolongation, for suspected CAP
   - Gave bolus of amiodarone 150mg at 11pm, systolic pressures in 100s
   - Remained in the 130's to 140's overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-3-11**] 12:00 AM
   Infusions:
   Heparin Sodium - 3,500 units/hour
   Amiodarone - 1 mg/min
   Other ICU medications:
   Metoprolol - [**2108-3-10**] 10:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-11**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 36.3
C (97.3
   HR: 133 (133 - 186) bpm
   BP: 120/72(82) {95/52(68) - 140/107(112)} mmHg
   RR: 19 (18 - 31) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 75 Inch
             Total In:
                                                                    827 mL
                                                                    771 mL
   PO:
                                                                    480 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    347 mL
                                                                    411 mL
   Blood products:
   Total out:
                                                                    640 mL
                                                                    380 mL
   Urine:
                                                                    640 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    187 mL
                                                                    391 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///24/
   Physical Examination
   GENERAL: obese male in mild respiratory distress, able to speak in
   complete, however short, sentences, diaphoretic, flushed
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   NECK: Supple unable to appreciate JVP given habitus
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   irregularly irregular rhythm, tachycardic, normal S1, S2. No thrills,
   lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi, however difficult to appreciate secondary to habitus.
   ABDOMEN: Soft, obese NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: 2+ pitting edema to the thigh BL LE. No femoral bruits.
   SKIN: Stasis dermatitis BL, worse on left than right with redness worse
   on left than right, no ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1 PT 1
   Left: Carotid 2+ Femoral 2+ DP 1 PT 1
   Labs / Radiology
   223 K/uL
   11.8 g/dL
   133 mg/dL
   1.5 mg/dL
   26 mEq/L
   4.1 mEq/L
   25 mg/dL
   101 mEq/L
   136 mEq/L
   32.6
   13.7
        [image002.jpg]
   PTT 74.1 at 1am
                             [**2108-3-10**]  05:35 PM
   WBC
   15.4
   Hct
   34.8
   Plt
   222
   Cr
   1.6
   Glucose
   95
   Other labs: PT / PTT / INR:15.1/74.1/1.3, Ca++:8.9 mg/dL, Mg++:1.8
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   52 yo male with history of morbid obesity, WPW, HTN, hyperlipidemia
   presents with A fib with RVR.
   .
   # A fib with RVR:  As the patient has a history of WPW with wide
   complex tachycardia in [**2107-1-7**], will refrain from AV nodal blockade,
   especially verapamil, and digoxin as can induce conduction down the
   accessory pathway.  Also, as the patient has evidence of a [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 2186**]
   on [**Last Name (LF) 1163**], [**First Name3 (LF) **] had to refrain from DC cardioversion and chemical
   cardioversion with procainamide, unless the patient becomes
   hemodynamically unstable.  Likely febrile illness and over treatment
   with levothyroxine for Hashimoto's contributing to patient's a fib with
   rapid ventricular rate.
   - Continue Amiodarone drip at increased rate, with some boluses for
   attempt at rhythm/rate control
   - Continue to use metoprolol for rate control-> will start PO
   metoprolol and give another bolus IV metoprolol.
   - Continue heparin drip for anticoagulation
   - Will use lasix as needed for signs of heart failure, as the patient
   has been in a tachyarrhythmia for at least the last 24 hours and is at
   risk for tachycardia induced cardiomyopathy.
   - Will need cardioversion in future after coumadin therapeutic X3 weeks
   and then potentially an anti-arrhythmic to keep him in sinus rhythm
   - If pt has stable VT we will give lidocaine, if has AF with aberrancy
   will start procainimide. If unstable will DCCV.
   .
   # [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]:
   - Confirmed presence by Dr. [**Last Name (STitle) 5195**] after reviewing [**Last Name (STitle) 1163**] from [**Hospital1 97**]
   - Continue Heparin drip
   -Start coumadin today
   .
   # Febrile Illness:  Fever, leukocytosis and productive cough likely
   secondary to respiratory illness.  As the patient has had cough,
   malaise and general body weakness flu is on differential, as well as
   other viral illness or CAP.
   - CXR showed evidence of questionable RLL and LLL pneumonia
   - Restarted Ceftriaxone (initially started at OSH) and doxycycline
   because initial concern about azithromycin and levofloxacin can prolong
   the QT interval although should not be a risk in this patient given
   normal QT on previous EKGs.
   - Continue doxy/ctx
   - UA shows possible UTI, antibiotic coverage with ceftriaxone
   - F/U  Blood, sputum and urine cultures, nasal aspirate
   - continue droplet precautions until flu ruled out
   - If pt develops diarrhea, would consider C diff given recent
   antibiotic course, although unlikely.
   - Tylenol PRN
   .
   # Hypertension:
   - Continue to hold antihypertensives in the setting of A fib with RVR
   with episode of hypotension at OSH.  Will reevaluate and add back home
   antihypertensives, starting with the ACE as tolerated.
   .
   # Hyperlipidemia:  Unclear why the patient is not on a statin
   - F/U lipid studies
   .
   # Hashimoto's Thyroiditis:  Pt's TSH at OSH was 0.07, however free T4
   and T3 within normal limits.
   - TSH here 0.08, free T 4 wnl
   - continue to hold levothyroxine
   - consider endocrine cls
   .
   # Depression:  Will restart sertraline today
   .
   # S/P Gastric Banding:  Continue vitamin supplementation and diet
   restrictions.
   .
   # OSA:  Will use home CPAP settings, pressure of 10, while inpatient
   .
   # FEN: 2gm NA diet, will monitor electrolytes
   .
   # ACCESS: R IJ placed at [**Hospital1 97**], confirm placement with CXR, if
   requires multi lumen catheter as of tomorrow, will consider resiting.
   .
   # PROPHYLAXIS: Heparin drip + coumadin
   .
   # CODE: Full Code
   .
   # DISPO: pending above
   .
   # Contact:  [**Name (NI) 288**] [**Last Name (NamePattern1) 253**], sister, HCP, [**Telephone/Fax (1) 5190**], [**Name2 (NI) **] [**Last Name (NamePattern1) 5191**],
   fiance [**Telephone/Fax (1) 5192**]
   ICU Care
   Nutrition:  Heart healthy
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-3-10**] 05:02 PM
   Prophylaxis:
   DVT:  Heparin gtt
   Stress ulcer: PO diet
   Communication:  with patient
   Code status: Full code
   Disposition:  ICU
   ------ Protected Section ------
   I reviewed transfer notes,data at [**Hospital1 1**] and Dr.[**Last Name (STitle) 5142**]
s notes
   Examined Pt and agree with treatment plan.
   Spent 45 -60 mins on case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2108-3-11**] 12:45 ------

2108-03-11 06:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2108-3-10**]:
   - Gave two doses of Lopressor 5mg with a gradual decrease in HR to
   150s, then gave 10mg X1 beginning to trend down at 11pm
   - Restarted ceftriaxone, and started doxycycline in exchange for
   azithromycin as it can cause QT prolongation, for suspected CAP
   - Gave bolus of amiodarone 150mg at 11pm, systolic pressures in 100s
   - Remained in the 130's to 140's overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-3-11**] 12:00 AM
   Infusions:
   Heparin Sodium - 3,500 units/hour
   Amiodarone - 1 mg/min
   Other ICU medications:
   Metoprolol - [**2108-3-10**] 10:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-11**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 36.3
C (97.3
   HR: 133 (133 - 186) bpm
   BP: 120/72(82) {95/52(68) - 140/107(112)} mmHg
   RR: 19 (18 - 31) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 75 Inch
             Total In:
                                                                    827 mL
                                                                    771 mL
   PO:
                                                                    480 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    347 mL
                                                                    411 mL
   Blood products:
   Total out:
                                                                    640 mL
                                                                    380 mL
   Urine:
                                                                    640 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    187 mL
                                                                    391 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///24/
   Physical Examination
   GENERAL: obese male in mild respiratory distress, able to speak in
   complete, however short, sentences, diaphoretic, flushed
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   NECK: Supple unable to appreciate JVP given habitus
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   irregularly irregular rhythm, tachycardic, normal S1, S2. No thrills,
   lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi, however difficult to appreciate secondary to habitus.
   ABDOMEN: Soft, obese NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: 2+ pitting edema to the thigh BL LE. No femoral bruits.
   SKIN: Stasis dermatitis BL, worse on left than right with redness worse
   on left than right, no ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1 PT 1
   Left: Carotid 2+ Femoral 2+ DP 1 PT 1
   Labs / Radiology
   222 K/uL
   11.8 g/dL
   95 mg/dL
   1.6 mg/dL
   24 mEq/L
   4.2 mEq/L
   25 mg/dL
   102 mEq/L
   138 mEq/L
   34.8 %
   15.4 K/uL
        [image002.jpg]
                             [**2108-3-10**]  05:35 PM
   WBC
   15.4
   Hct
   34.8
   Plt
   222
   Cr
   1.6
   Glucose
   95
   Other labs: PT / PTT / INR:15.1/74.1/1.3, Ca++:8.9 mg/dL, Mg++:1.8
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   52 yo male with history of morbid obesity, WPW, HTN, hyperlipidemia
   presents with A fib with RVR.
   .
   # A fib with RVR:  As the patient has a history of WPW with wide
   complex tachycardia in [**2107-1-7**], will refrain from AV nodal blockade,
   especially verapamil, and digoxin as can induce conduction down the
   accessory pathway.  Also, as the patient has evidence of a [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 2186**]
   on [**Last Name (LF) 1163**], [**First Name3 (LF) 116**] refrain from DC cardioversion and chemical cardioversion
   with procainamide, unless the patient becomes hemodynamically
   unstable.  Likely febrile illness and over treatment with levothyroxine
   for Hashimoto's contributing to patient's a fib with rapid ventricular
   rate.
   - Continue Amiodarone drip at increased rate, with some boluses for
   attempt at rhythm/rate control
   - Continue to use metoprolol for rate control, pt tolerated 10mg bolus
   IV yesterday, for rate control
   - Continue heparin drip for anticoagulation
   - Will use lasix as needed for signs of heart failure, as the patient
   has been in a tachyarrhythmia for at least the last 24 hours and is at
   risk for tachycardia induced cardiomyopathy.
   - Consider EP consult for possible EP study to attempt to determine if
   the A fib is dependent on the accessory pathway
   .
   # [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]:
   - Confirmed presence by Dr. [**Last Name (STitle) 5195**] after reviewing [**Last Name (STitle) 1163**] from [**Hospital1 97**]
   - Continue Heparin drip
   .
   # Febrile Illness:  Fever, leukocytosis and productive cough likely
   secondary to respiratory illness.  As the patient has had cough,
   malaise and general body weakness flu is on differential, as well as
   other viral illness or CAP.
   - CXR showed evidence of questionable RLL and LLL pneumonia
   - Restarted Ceftriaxone (initially started at OSH) and doxycycline
   (azithromycin and levofloxacin can prolong the QT interval) for
   presumed CAP.
   - F/U  Blood, sputum and urine cultures, nasal aspirate
   - continue droplet precautions until flu ruled out
   - If pt develops diarrhea, would consider C diff given recent
   antibiotic course, although unlikely.
   - Tylenol PRN
   .
   # Hypertension:
   - Continue to hold antihypertensives in the setting of A fib with RVR
   with episode of hypotension at OSH.  Will reevaluate and add back home
   antihypertensives, starting with the ACE as tolerated.
   .
   # Hyperlipidemia:  Unclear why the patient is not on a statin
   - F/U lipid studies
   .
   # Hashimoto's Thyroiditis:  Pt's TSH at OSH was 0.07, however free T4
   and T3 within normal limits.  Will hold levothyroxine as patient is
   likely over treated.
   - F/U TSH
   .
   # Depression:  Will hold sertraline for now as may prolong QT
   .
   # S/P Gastric Banding:  Continue vitamin supplementation and diet
   restrictions.
   .
   # OSA:  Will use home CPAP settings, pressure of 10, while inpatient
   .
   # FEN: 2gm NA diet, will monitor electrolytes
   .
   # ACCESS: R IJ placed at [**Hospital1 97**], confirm placement with CXR, if
   requires multi lumen catheter as of tomorrow, will consider resiting.
   .
   # PROPHYLAXIS: Heparin drip
   .
   # CODE: Full Code
   .
   # DISPO: pending above
   .
   # Contact:  [**Name (NI) 288**] [**Last Name (NamePattern1) 253**], sister, HCP, [**Telephone/Fax (1) 5190**], [**Name2 (NI) **] [**Last Name (NamePattern1) 5191**],
   fiance [**Telephone/Fax (1) 5192**]
   ICU Care
   Nutrition:  Heart healthy
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-3-10**] 05:02 PM
   Prophylaxis:
   DVT:  Heparin gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2108-03-11 06:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2108-3-10**]:
   - Gave two doses of Lopressor 5mg with a gradual decrease in HR to
   150s, then gave 10mg X1 beginning to trend down at 11pm
   - Restarted ceftriaxone, and started doxycycline in exchange for
   azithromycin as it can cause QT prolongation, for suspected CAP
   - Gave bolus of amiodarone 150mg at 11pm, systolic pressures in 100s
   - Remained in the 130's to 140's overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-3-11**] 12:00 AM
   Infusions:
   Heparin Sodium - 3,500 units/hour
   Amiodarone - 1 mg/min
   Other ICU medications:
   Metoprolol - [**2108-3-10**] 10:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-11**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 36.3
C (97.3
   HR: 133 (133 - 186) bpm
   BP: 120/72(82) {95/52(68) - 140/107(112)} mmHg
   RR: 19 (18 - 31) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 75 Inch
             Total In:
                                                                    827 mL
                                                                    771 mL
   PO:
                                                                    480 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    347 mL
                                                                    411 mL
   Blood products:
   Total out:
                                                                    640 mL
                                                                    380 mL
   Urine:
                                                                    640 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    187 mL
                                                                    391 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///24/
   Physical Examination
   GENERAL: obese male in mild respiratory distress, able to speak in
   complete, however short, sentences, diaphoretic, flushed
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   NECK: Supple unable to appreciate JVP given habitus
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   irregularly irregular rhythm, tachycardic, normal S1, S2. No thrills,
   lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi, however difficult to appreciate secondary to habitus.
   ABDOMEN: Soft, obese NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: 2+ pitting edema to the thigh BL LE. No femoral bruits.
   SKIN: Stasis dermatitis BL, worse on left than right with redness worse
   on left than right, no ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1 PT 1
   Left: Carotid 2+ Femoral 2+ DP 1 PT 1
   Labs / Radiology
   223 K/uL
   11.8 g/dL
   133 mg/dL
   1.5 mg/dL
   26 mEq/L
   4.1 mEq/L
   25 mg/dL
   101 mEq/L
   136 mEq/L
   32.6
   13.7
        [image002.jpg]
   PTT 74.1 at 1am
                             [**2108-3-10**]  05:35 PM
   WBC
   15.4
   Hct
   34.8
   Plt
   222
   Cr
   1.6
   Glucose
   95
   Other labs: PT / PTT / INR:15.1/74.1/1.3, Ca++:8.9 mg/dL, Mg++:1.8
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   52 yo male with history of morbid obesity, WPW, HTN, hyperlipidemia
   presents with A fib with RVR.
   .
   # A fib with RVR:  As the patient has a history of WPW with wide
   complex tachycardia in [**2107-1-7**], will refrain from AV nodal blockade,
   especially verapamil, and digoxin as can induce conduction down the
   accessory pathway.  Also, as the patient has evidence of a [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 2186**]
   on [**Last Name (LF) 1163**], [**First Name3 (LF) 116**] refrain from DC cardioversion and chemical cardioversion
   with procainamide, unless the patient becomes hemodynamically
   unstable.  Likely febrile illness and over treatment with levothyroxine
   for Hashimoto's contributing to patient's a fib with rapid ventricular
   rate.
   - Continue Amiodarone drip at increased rate, with some boluses for
   attempt at rhythm/rate control
   - Continue to use metoprolol for rate control, pt tolerated 10mg bolus
   IV yesterday, for rate control
   - Continue heparin drip for anticoagulation
   - Will use lasix as needed for signs of heart failure, as the patient
   has been in a tachyarrhythmia for at least the last 24 hours and is at
   risk for tachycardia induced cardiomyopathy.
   - Consider EP consult for possible EP study to attempt to determine if
   the A fib is dependent on the accessory pathway
   .
   # [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]:
   - Confirmed presence by Dr. [**Last Name (STitle) 5195**] after reviewing [**Last Name (STitle) 1163**] from [**Hospital1 97**]
   - Continue Heparin drip
   .
   # Febrile Illness:  Fever, leukocytosis and productive cough likely
   secondary to respiratory illness.  As the patient has had cough,
   malaise and general body weakness flu is on differential, as well as
   other viral illness or CAP.
   - CXR showed evidence of questionable RLL and LLL pneumonia
   - Restarted Ceftriaxone (initially started at OSH) and doxycycline
   (azithromycin and levofloxacin can prolong the QT interval) for
   presumed CAP.
   - UA shows possible UTI, antibiotic coverage with ceftriaxone
   - F/U  Blood, sputum and urine cultures, nasal aspirate
   - continue droplet precautions until flu ruled out
   - If pt develops diarrhea, would consider C diff given recent
   antibiotic course, although unlikely.
   - Tylenol PRN
   .
   # Hypertension:
   - Continue to hold antihypertensives in the setting of A fib with RVR
   with episode of hypotension at OSH.  Will reevaluate and add back home
   antihypertensives, starting with the ACE as tolerated.
   .
   # Hyperlipidemia:  Unclear why the patient is not on a statin
   - F/U lipid studies
   .
   # Hashimoto's Thyroiditis:  Pt's TSH at OSH was 0.07, however free T4
   and T3 within normal limits.
   - TSH here 0.08, free T 4 wnl
   - continue to hold levothyroxine
   .
   # Depression:  Will hold sertraline for now as may prolong QT
   .
   # S/P Gastric Banding:  Continue vitamin supplementation and diet
   restrictions.
   .
   # OSA:  Will use home CPAP settings, pressure of 10, while inpatient
   .
   # FEN: 2gm NA diet, will monitor electrolytes
   .
   # ACCESS: R IJ placed at [**Hospital1 97**], confirm placement with CXR, if
   requires multi lumen catheter as of tomorrow, will consider resiting.
   .
   # PROPHYLAXIS: Heparin drip
   .
   # CODE: Full Code
   .
   # DISPO: pending above
   .
   # Contact:  [**Name (NI) 288**] [**Last Name (NamePattern1) 253**], sister, HCP, [**Telephone/Fax (1) 5190**], [**Name2 (NI) **] [**Last Name (NamePattern1) 5191**],
   fiance [**Telephone/Fax (1) 5192**]
   ICU Care
   Nutrition:  Heart healthy
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-3-10**] 05:02 PM
   Prophylaxis:
   DVT:  Heparin gtt
   Stress ulcer: PO diet
   Communication:  with patient
   Code status: Full code
   Disposition:  ICU

2108-03-11 06:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2108-3-10**]:
   - Gave two doses of Lopressor 5mg with a gradual decrease in HR to
   150s, then gave 10mg X1 beginning to trend down at 11pm
   - Restarted ceftriaxone, and started doxycycline in exchange for
   azithromycin as it can cause QT prolongation, for suspected CAP
   - Gave bolus of amiodarone 150mg at 11pm, systolic pressures in 100s
   - Remained in the 130's to 140's overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-3-11**] 12:00 AM
   Infusions:
   Heparin Sodium - 3,500 units/hour
   Amiodarone - 1 mg/min
   Other ICU medications:
   Metoprolol - [**2108-3-10**] 10:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-11**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 36.3
C (97.3
   HR: 133 (133 - 186) bpm
   BP: 120/72(82) {95/52(68) - 140/107(112)} mmHg
   RR: 19 (18 - 31) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 75 Inch
             Total In:
                                                                    827 mL
                                                                    771 mL
   PO:
                                                                    480 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    347 mL
                                                                    411 mL
   Blood products:
   Total out:
                                                                    640 mL
                                                                    380 mL
   Urine:
                                                                    640 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    187 mL
                                                                    391 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///24/
   Physical Examination
   GENERAL: obese male in mild respiratory distress, able to speak in
   complete, however short, sentences, diaphoretic, flushed
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   NECK: Supple unable to appreciate JVP given habitus
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   irregularly irregular rhythm, tachycardic, normal S1, S2. No thrills,
   lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi, however difficult to appreciate secondary to habitus.
   ABDOMEN: Soft, obese NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: 2+ pitting edema to the thigh BL LE. No femoral bruits.
   SKIN: Stasis dermatitis BL, worse on left than right with redness worse
   on left than right, no ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1 PT 1
   Left: Carotid 2+ Femoral 2+ DP 1 PT 1
   Labs / Radiology
   223 K/uL
   11.8 g/dL
   133 mg/dL
   1.5 mg/dL
   26 mEq/L
   4.1 mEq/L
   25 mg/dL
   101 mEq/L
   136 mEq/L
   32.6
   13.7
        [image002.jpg]
   PTT 74.1 at 1am
                             [**2108-3-10**]  05:35 PM
   WBC
   15.4
   Hct
   34.8
   Plt
   222
   Cr
   1.6
   Glucose
   95
   Other labs: PT / PTT / INR:15.1/74.1/1.3, Ca++:8.9 mg/dL, Mg++:1.8
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   52 yo male with history of morbid obesity, WPW, HTN, hyperlipidemia
   presents with A fib with RVR.
   .
   # A fib with RVR:  As the patient has a history of WPW with wide
   complex tachycardia in [**2107-1-7**], will refrain from AV nodal blockade,
   especially verapamil, and digoxin as can induce conduction down the
   accessory pathway.  Also, as the patient has evidence of a [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 2186**]
   on [**Last Name (LF) 1163**], [**First Name3 (LF) 116**] refrain from DC cardioversion and chemical cardioversion
   with procainamide, unless the patient becomes hemodynamically
   unstable.  Likely febrile illness and over treatment with levothyroxine
   for Hashimoto's contributing to patient's a fib with rapid ventricular
   rate.
   - Continue Amiodarone drip at increased rate, with some boluses for
   attempt at rhythm/rate control
   - Continue to use metoprolol for rate control, pt tolerated 10mg bolus
   IV yesterday, for rate control
   - Continue heparin drip for anticoagulation
   - Will use lasix as needed for signs of heart failure, as the patient
   has been in a tachyarrhythmia for at least the last 24 hours and is at
   risk for tachycardia induced cardiomyopathy.
   - Consider EP consult for possible EP study to attempt to determine if
   the A fib is dependent on the accessory pathway
   .
   # [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]:
   - Confirmed presence by Dr. [**Last Name (STitle) 5195**] after reviewing [**Last Name (STitle) 1163**] from [**Hospital1 97**]
   - Continue Heparin drip
   .
   # Febrile Illness:  Fever, leukocytosis and productive cough likely
   secondary to respiratory illness.  As the patient has had cough,
   malaise and general body weakness flu is on differential, as well as
   other viral illness or CAP.
   - CXR showed evidence of questionable RLL and LLL pneumonia
   - Restarted Ceftriaxone (initially started at OSH) and doxycycline
   because initial concern about azithromycin and levofloxacin can prolong
   the QT interval however should not be a risk in this patient given
   normal QT on previous EKGs. Do will restart azithro and d/c doxy today
   - UA shows possible UTI, antibiotic coverage with ceftriaxone
   - F/U  Blood, sputum and urine cultures, nasal aspirate
   - continue droplet precautions until flu ruled out
   - If pt develops diarrhea, would consider C diff given recent
   antibiotic course, although unlikely.
   - Tylenol PRN
   .
   # Hypertension:
   - Continue to hold antihypertensives in the setting of A fib with RVR
   with episode of hypotension at OSH.  Will reevaluate and add back home
   antihypertensives, starting with the ACE as tolerated.
   .
   # Hyperlipidemia:  Unclear why the patient is not on a statin
   - F/U lipid studies
   .
   # Hashimoto's Thyroiditis:  Pt's TSH at OSH was 0.07, however free T4
   and T3 within normal limits.
   - TSH here 0.08, free T 4 wnl
   - continue to hold levothyroxine
   .
   # Depression:  Will hold sertraline for now as may prolong QT
   .
   # S/P Gastric Banding:  Continue vitamin supplementation and diet
   restrictions.
   .
   # OSA:  Will use home CPAP settings, pressure of 10, while inpatient
   .
   # FEN: 2gm NA diet, will monitor electrolytes
   .
   # ACCESS: R IJ placed at [**Hospital1 97**], confirm placement with CXR, if
   requires multi lumen catheter as of tomorrow, will consider resiting.
   .
   # PROPHYLAXIS: Heparin drip
   .
   # CODE: Full Code
   .
   # DISPO: pending above
   .
   # Contact:  [**Name (NI) 288**] [**Last Name (NamePattern1) 253**], sister, HCP, [**Telephone/Fax (1) 5190**], [**Name2 (NI) **] [**Last Name (NamePattern1) 5191**],
   fiance [**Telephone/Fax (1) 5192**]
   ICU Care
   Nutrition:  Heart healthy
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-3-10**] 05:02 PM
   Prophylaxis:
   DVT:  Heparin gtt
   Stress ulcer: PO diet
   Communication:  with patient
   Code status: Full code
   Disposition:  ICU

2108-03-11 06:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2108-3-10**]:
   - Gave two doses of Lopressor 5mg with a gradual decrease in HR to
   150s, then gave 10mg X1 beginning to trend down at 11pm
   - Restarted ceftriaxone, and started doxycycline in exchange for
   azithromycin as it can cause QT prolongation, for suspected CAP
   - Gave bolus of amiodarone 150mg at 11pm, systolic pressures in 100s
   - Remained in the 130's to 140's overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-3-11**] 12:00 AM
   Infusions:
   Heparin Sodium - 3,500 units/hour
   Amiodarone - 1 mg/min
   Other ICU medications:
   Metoprolol - [**2108-3-10**] 10:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-11**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 36.3
C (97.3
   HR: 133 (133 - 186) bpm
   BP: 120/72(82) {95/52(68) - 140/107(112)} mmHg
   RR: 19 (18 - 31) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 75 Inch
             Total In:
                                                                    827 mL
                                                                    771 mL
   PO:
                                                                    480 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    347 mL
                                                                    411 mL
   Blood products:
   Total out:
                                                                    640 mL
                                                                    380 mL
   Urine:
                                                                    640 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    187 mL
                                                                    391 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///24/
   Physical Examination
   GENERAL: obese male in mild respiratory distress, able to speak in
   complete, however short, sentences, diaphoretic, flushed
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   NECK: Supple unable to appreciate JVP given habitus
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   irregularly irregular rhythm, tachycardic, normal S1, S2. No thrills,
   lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi, however difficult to appreciate secondary to habitus.
   ABDOMEN: Soft, obese NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: 2+ pitting edema to the thigh BL LE. No femoral bruits.
   SKIN: Stasis dermatitis BL, worse on left than right with redness worse
   on left than right, no ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1 PT 1
   Left: Carotid 2+ Femoral 2+ DP 1 PT 1
   Labs / Radiology
   223 K/uL
   11.8 g/dL
   133 mg/dL
   1.5 mg/dL
   26 mEq/L
   4.1 mEq/L
   25 mg/dL
   101 mEq/L
   136 mEq/L
   32.6
   13.7
        [image002.jpg]
   PTT 74.1 at 1am
                             [**2108-3-10**]  05:35 PM
   WBC
   15.4
   Hct
   34.8
   Plt
   222
   Cr
   1.6
   Glucose
   95
   Other labs: PT / PTT / INR:15.1/74.1/1.3, Ca++:8.9 mg/dL, Mg++:1.8
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   52 yo male with history of morbid obesity, WPW, HTN, hyperlipidemia
   presents with A fib with RVR.
   .
   # A fib with RVR:  As the patient has a history of WPW with wide
   complex tachycardia in [**2107-1-7**], will refrain from AV nodal blockade,
   especially verapamil, and digoxin as can induce conduction down the
   accessory pathway.  Also, as the patient has evidence of a [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 2186**]
   on [**Last Name (LF) 1163**], [**First Name3 (LF) 116**] refrain from DC cardioversion and chemical cardioversion
   with procainamide, unless the patient becomes hemodynamically
   unstable.  Likely febrile illness and over treatment with levothyroxine
   for Hashimoto's contributing to patient's a fib with rapid ventricular
   rate.
   - Continue Amiodarone drip at increased rate, with some boluses for
   attempt at rhythm/rate control
   - Continue to use metoprolol for rate control, pt tolerated 10mg bolus
   IV yesterday and this am, for rate control
   - Continue heparin drip for anticoagulation
   - Will use lasix as needed for signs of heart failure, as the patient
   has been in a tachyarrhythmia for at least the last 24 hours and is at
   risk for tachycardia induced cardiomyopathy.
   - Consider EP consult for possible EP study to attempt to determine if
   the A fib is dependent on the accessory pathway
   .
   # [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]:
   - Confirmed presence by Dr. [**Last Name (STitle) 5195**] after reviewing [**Last Name (STitle) 1163**] from [**Hospital1 97**]
   - Continue Heparin drip
   .
   # Febrile Illness:  Fever, leukocytosis and productive cough likely
   secondary to respiratory illness.  As the patient has had cough,
   malaise and general body weakness flu is on differential, as well as
   other viral illness or CAP.
   - CXR showed evidence of questionable RLL and LLL pneumonia
   - Restarted Ceftriaxone (initially started at OSH) and doxycycline
   because initial concern about azithromycin and levofloxacin can prolong
   the QT interval however should not be a risk in this patient given
   normal QT on previous EKGs. Do will restart azithro and d/c doxy today
   - UA shows possible UTI, antibiotic coverage with ceftriaxone
   - F/U  Blood, sputum and urine cultures, nasal aspirate
   - continue droplet precautions until flu ruled out
   - If pt develops diarrhea, would consider C diff given recent
   antibiotic course, although unlikely.
   - Tylenol PRN
   .
   # Hypertension:
   - Continue to hold antihypertensives in the setting of A fib with RVR
   with episode of hypotension at OSH.  Will reevaluate and add back home
   antihypertensives, starting with the ACE as tolerated.
   .
   # Hyperlipidemia:  Unclear why the patient is not on a statin
   - F/U lipid studies
   .
   # Hashimoto's Thyroiditis:  Pt's TSH at OSH was 0.07, however free T4
   and T3 within normal limits.
   - TSH here 0.08, free T 4 wnl
   - continue to hold levothyroxine
   .
   # Depression:  Will hold sertraline for now as may prolong QT
   .
   # S/P Gastric Banding:  Continue vitamin supplementation and diet
   restrictions.
   .
   # OSA:  Will use home CPAP settings, pressure of 10, while inpatient
   .
   # FEN: 2gm NA diet, will monitor electrolytes
   .
   # ACCESS: R IJ placed at [**Hospital1 97**], confirm placement with CXR, if
   requires multi lumen catheter as of tomorrow, will consider resiting.
   .
   # PROPHYLAXIS: Heparin drip
   .
   # CODE: Full Code
   .
   # DISPO: pending above
   .
   # Contact:  [**Name (NI) 288**] [**Last Name (NamePattern1) 253**], sister, HCP, [**Telephone/Fax (1) 5190**], [**Name2 (NI) **] [**Last Name (NamePattern1) 5191**],
   fiance [**Telephone/Fax (1) 5192**]
   ICU Care
   Nutrition:  Heart healthy
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-3-10**] 05:02 PM
   Prophylaxis:
   DVT:  Heparin gtt
   Stress ulcer: PO diet
   Communication:  with patient
   Code status: Full code
   Disposition:  ICU

2108-03-11 06:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2108-3-10**]:
   - Gave two doses of Lopressor 5mg with a gradual decrease in HR to
   150s, then gave 10mg X1 beginning to trend down at 11pm
   - Restarted ceftriaxone, and started doxycycline in exchange for
   azithromycin as it can cause QT prolongation, for suspected CAP
   - Gave bolus of amiodarone 150mg at 11pm, systolic pressures in 100s
   - Remained in the 130's to 140's overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-3-11**] 12:00 AM
   Infusions:
   Heparin Sodium - 3,500 units/hour
   Amiodarone - 1 mg/min
   Other ICU medications:
   Metoprolol - [**2108-3-10**] 10:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-11**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 36.3
C (97.3
   HR: 133 (133 - 186) bpm
   BP: 120/72(82) {95/52(68) - 140/107(112)} mmHg
   RR: 19 (18 - 31) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 75 Inch
             Total In:
                                                                    827 mL
                                                                    771 mL
   PO:
                                                                    480 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    347 mL
                                                                    411 mL
   Blood products:
   Total out:
                                                                    640 mL
                                                                    380 mL
   Urine:
                                                                    640 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    187 mL
                                                                    391 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///24/
   Physical Examination
   GENERAL: obese male in mild respiratory distress, able to speak in
   complete, however short, sentences, diaphoretic, flushed
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   NECK: Supple unable to appreciate JVP given habitus
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   irregularly irregular rhythm, tachycardic, normal S1, S2. No thrills,
   lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi, however difficult to appreciate secondary to habitus.
   ABDOMEN: Soft, obese NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: 2+ pitting edema to the thigh BL LE. No femoral bruits.
   SKIN: Stasis dermatitis BL, worse on left than right with redness worse
   on left than right, no ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1 PT 1
   Left: Carotid 2+ Femoral 2+ DP 1 PT 1
   Labs / Radiology
   223 K/uL
   11.8 g/dL
   133 mg/dL
   1.5 mg/dL
   26 mEq/L
   4.1 mEq/L
   25 mg/dL
   101 mEq/L
   136 mEq/L
   32.6
   13.7
        [image002.jpg]
   PTT 74.1 at 1am
                             [**2108-3-10**]  05:35 PM
   WBC
   15.4
   Hct
   34.8
   Plt
   222
   Cr
   1.6
   Glucose
   95
   Other labs: PT / PTT / INR:15.1/74.1/1.3, Ca++:8.9 mg/dL, Mg++:1.8
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   52 yo male with history of morbid obesity, WPW, HTN, hyperlipidemia
   presents with A fib with RVR.
   .
   # A fib with RVR:  As the patient has a history of WPW with wide
   complex tachycardia in [**2107-1-7**], will refrain from AV nodal blockade,
   especially verapamil, and digoxin as can induce conduction down the
   accessory pathway.  Also, as the patient has evidence of a [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 2186**]
   on [**Last Name (LF) 1163**], [**First Name3 (LF) **] had to refrain from DC cardioversion and chemical
   cardioversion with procainamide, unless the patient becomes
   hemodynamically unstable.  Likely febrile illness and over treatment
   with levothyroxine for Hashimoto's contributing to patient's a fib with
   rapid ventricular rate.
   - Continue Amiodarone drip at increased rate, with some boluses for
   attempt at rhythm/rate control
   - Continue to use metoprolol for rate control-> will start PO
   metoprolol and give another bolus IV metoprolol.
   - Continue heparin drip for anticoagulation
   - Will use lasix as needed for signs of heart failure, as the patient
   has been in a tachyarrhythmia for at least the last 24 hours and is at
   risk for tachycardia induced cardiomyopathy.
   - Will need cardioversion in future after coumadin therapeutic X3 weeks
   and then potentially an anti-arrhythmic to keep him in sinus rhythm
   - If pt has stable VT we will give lidocaine, if has AF with aberrancy
   will start procainimide. If unstable will DCCV.
   .
   # [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]:
   - Confirmed presence by Dr. [**Last Name (STitle) 5195**] after reviewing [**Last Name (STitle) 1163**] from [**Hospital1 97**]
   - Continue Heparin drip
   -Start coumadin today
   .
   # Febrile Illness:  Fever, leukocytosis and productive cough likely
   secondary to respiratory illness.  As the patient has had cough,
   malaise and general body weakness flu is on differential, as well as
   other viral illness or CAP.
   - CXR showed evidence of questionable RLL and LLL pneumonia
   - Restarted Ceftriaxone (initially started at OSH) and doxycycline
   because initial concern about azithromycin and levofloxacin can prolong
   the QT interval although should not be a risk in this patient given
   normal QT on previous EKGs.
   - Continue doxy/ctx
   - UA shows possible UTI, antibiotic coverage with ceftriaxone
   - F/U  Blood, sputum and urine cultures, nasal aspirate
   - continue droplet precautions until flu ruled out
   - If pt develops diarrhea, would consider C diff given recent
   antibiotic course, although unlikely.
   - Tylenol PRN
   .
   # Hypertension:
   - Continue to hold antihypertensives in the setting of A fib with RVR
   with episode of hypotension at OSH.  Will reevaluate and add back home
   antihypertensives, starting with the ACE as tolerated.
   .
   # Hyperlipidemia:  Unclear why the patient is not on a statin
   - F/U lipid studies
   .
   # Hashimoto's Thyroiditis:  Pt's TSH at OSH was 0.07, however free T4
   and T3 within normal limits.
   - TSH here 0.08, free T 4 wnl
   - continue to hold levothyroxine
   - consider endocrine cls
   .
   # Depression:  Will restart sertraline today
   .
   # S/P Gastric Banding:  Continue vitamin supplementation and diet
   restrictions.
   .
   # OSA:  Will use home CPAP settings, pressure of 10, while inpatient
   .
   # FEN: 2gm NA diet, will monitor electrolytes
   .
   # ACCESS: R IJ placed at [**Hospital1 97**], confirm placement with CXR, if
   requires multi lumen catheter as of tomorrow, will consider resiting.
   .
   # PROPHYLAXIS: Heparin drip + coumadin
   .
   # CODE: Full Code
   .
   # DISPO: pending above
   .
   # Contact:  [**Name (NI) 288**] [**Last Name (NamePattern1) 253**], sister, HCP, [**Telephone/Fax (1) 5190**], [**Name2 (NI) **] [**Last Name (NamePattern1) 5191**],
   fiance [**Telephone/Fax (1) 5192**]
   ICU Care
   Nutrition:  Heart healthy
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-3-10**] 05:02 PM
   Prophylaxis:
   DVT:  Heparin gtt
   Stress ulcer: PO diet
   Communication:  with patient
   Code status: Full code
   Disposition:  ICU

2108-03-12 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Started PO lopressor 100mg [**Hospital1 **] and then inc to 150BID as HRs still in
   130s-140s
   - Gave extra 10mg IV lopressor X 2 (9am and 2pm) because HR 130s-140s
   - Restarted Zoloft
   - Endocrine: check TFTs, thyroid u/s
   - Lipids: LDL 41, HDL 43, Chol 108
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-3-11**] 12:00 AM
   Infusions:
   Amiodarone - 1 mg/min
   Heparin Sodium - 3,500 units/hour
   Other ICU medications:
   Metoprolol - [**2108-3-11**] 03:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-12**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.5
   HR: 131 (126 - 151) bpm
   BP: 101/77(82) {89/55(62) - 160/116(119)} mmHg
   RR: 21 (12 - 28) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 75 Inch
             Total In:
                                                                  3,369 mL
                                                                    905 mL
   PO:
                                                                  1,830 mL
                                                                    500 mL
   TF:
   IVF:
                                                                  1,539 mL
                                                                    405 mL
   Blood products:
   Total out:
                                                                  1,769 mL
                                                                    740 mL
   Urine:
                                                                  1,769 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,600 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   GENERAL: obese male in mild respiratory distress, able to speak in
   complete, however short, sentences, diaphoretic, flushed
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   NECK: Supple unable to appreciate JVP given habitus
   CARDIAC: irregularly irregular rhythm, tachycardic, normal S1, S2. No
   thrills, lifts. No S3 or S4.
   LUNGS: Resp were unlabored, no accessory muscle use. CTAB, no crackles,
   wheezes or rhonchi
   ABDOMEN: Soft, obese NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: 2+ pitting edema to the thigh BL LE. No femoral bruits.
   SKIN: Stasis dermatitis BL, worse on left than right with redness worse
   on left than right, no ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1 PT 1
   Left: Carotid 2+ Femoral 2+ DP 1 PT 1
   Labs / Radiology
   230 K/uL
   11.0 g/dL
   114 mg/dL
   1.5 mg/dL
   24 mEq/L
   3.9 mEq/L
   25 mg/dL
   100 mEq/L
   136 mEq/L
   32.3 %
   13.0 K/uL
        [image002.jpg]
                             [**2108-3-10**]  05:35 PM
                             [**2108-3-11**]  05:52 AM
                             [**2108-3-12**]  05:43 AM
   WBC
   15.4
   13.7
   13.0
   Hct
   34.8
   32.6
   32.3
   Plt
   222
   223
   230
   Cr
   1.6
   1.5
   1.5
   Glucose
   95
   133
   114
   Other labs: PT / PTT / INR:15.3/73.3/1.3, Ca++:8.4 mg/dL, Mg++:2.5
   mg/dL, PO4:3.7 mg/dL, T4 8.1, T3 69, TBG 0.81, T3Uptake 1.23, T4 index
   10.0
   Assessment and Plan
   52 yo male with history of morbid obesity, WPW, HTN, hyperlipidemia
   presents with A fib with RVR.
   .
   # A fib with RVR:  As the patient has a history of WPW with wide
   complex tachycardia in [**2107-1-7**], will refrain verapamil, and digoxin as
   can induce conduction down the accessory pathway.  Also, the patient
   has evidence of a [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 2186**] on [**Last Name (LF) 1163**], [**First Name3 (LF) **] had to refrain from DC
   cardioversion and chemical cardioversion with procainamide, unless the
   patient becomes hemodynamically unstable.  Likely febrile illness and
   over treatment with levothyroxine for Hashimoto's contributing to
   patient's a fib with rapid ventricular rate.
   - Continue Amiodarone drip at increased rate, with some boluses for
   attempt at rhythm/rate control
   - Continue to use metoprolol for rate control as BP allows
currently
   150mg TID with some lower pressures so cannot increase at this time.
   Consider slight amount of fluids, given fevers and low PO intake with
   illness, to inc BP a little and then might be able to inc metoprolol.
   - D/W endocrine re switch to propanolol
   - c/s esmolol drip or diltiazem ggt if rate still elevated
   - Continue heparin drip for anticoagulation
   - Will need cardioversion in future after coumadin therapeutic X3 weeks
   and then potentially an anti-arrhythmic to keep him in sinus rhythm
   - Pt has h/o VT. If pt has stable VT we will give lidocaine, if has AF
   with aberrancy will start procainimide. If unstable will DCCV.
   # [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]:
   - Confirmed presence by Dr. [**Last Name (STitle) 5195**] after reviewing [**Last Name (STitle) 1163**] from [**Hospital1 97**]
   - Continue Heparin drip with coumadin bridge until INR therapeutic
   # Febrile Illness: Presentation and CXR consistent with CAP.
   - Continue doxy/ctx (first dose [**2108-3-10**])
   - UA shows possible UTI, antibiotic coverage with ceftriaxone
   - F/U  Blood, sputum and urine cultures, nasal aspirate culture all
   pending. Nasal aspirate antigen test negative so flu precautions d/c
   - Tylenol PRN
   - Consider IVF as above.
   # Hashimoto's Thyroiditis: overtreatment with levoxyl. Following TFTs
   - continue to hold levothyroxine
   - Appreciate endocrine recs
   - Will have thyroid u/s today
   # Hyperlipidemia:  Unclear why the patient is not on a statin
   - Lipid studies with lipids at goal so no need for statin at this time
   given no h/o CAD or DM
   # FEN: 2gm NA diet, will monitor electrolytes
   # ACCESS: R IJ placed at [**Hospital1 97**], confirm placement with CXR, if
   requires multi lumen catheter as of tomorrow, will consider resiting.
   # PROPHYLAXIS: Heparin drip + coumadin
   # CODE: Full Code
   # DISPO: pending above
   # Contact:  [**Name (NI) 288**] [**Last Name (NamePattern1) 253**], sister, HCP, [**Telephone/Fax (1) 5190**], [**Name2 (NI) **] [**Last Name (NamePattern1) 5191**],
   fiance [**Telephone/Fax (1) 5192**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-3-10**] 05:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Reviewed overnight course.Pt feels tired and SOB still and V.Response
   in AF slightly slower.
   Will switch to propranolol and iv cardizem for rate control in AF and
   DC iv Amiodarone.
   Await Endocrine consult.
   Spent 40 mins over case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2108-3-12**] 09:52 ------

2108-03-12 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Started PO lopressor 100mg [**Hospital1 **] and then inc to 150BID as HRs still in
   130s-140s
   - Gave extra 10mg IV lopressor X 2 (9am and 2pm) because HR 130s-140s
   - Restarted Zoloft
   - Endocrine: check TFTs, thyroid u/s
   - Lipids: LDL 41, HDL 43, Chol 108
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-3-11**] 12:00 AM
   Infusions:
   Amiodarone - 1 mg/min
   Heparin Sodium - 3,500 units/hour
   Other ICU medications:
   Metoprolol - [**2108-3-11**] 03:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-12**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.5
   HR: 131 (126 - 151) bpm
   BP: 101/77(82) {89/55(62) - 160/116(119)} mmHg
   RR: 21 (12 - 28) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 75 Inch
             Total In:
                                                                  3,369 mL
                                                                    905 mL
   PO:
                                                                  1,830 mL
                                                                    500 mL
   TF:
   IVF:
                                                                  1,539 mL
                                                                    405 mL
   Blood products:
   Total out:
                                                                  1,769 mL
                                                                    740 mL
   Urine:
                                                                  1,769 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,600 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   GENERAL: obese male in mild respiratory distress, able to speak in
   complete, however short, sentences, diaphoretic, flushed
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   NECK: Supple unable to appreciate JVP given habitus
   CARDIAC: irregularly irregular rhythm, tachycardic, normal S1, S2. No
   thrills, lifts. No S3 or S4.
   LUNGS: Resp were unlabored, no accessory muscle use. CTAB, no crackles,
   wheezes or rhonchi
   ABDOMEN: Soft, obese NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: 2+ pitting edema to the thigh BL LE. No femoral bruits.
   SKIN: Stasis dermatitis BL, worse on left than right with redness worse
   on left than right, no ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1 PT 1
   Left: Carotid 2+ Femoral 2+ DP 1 PT 1
   Labs / Radiology
   230 K/uL
   11.0 g/dL
   114 mg/dL
   1.5 mg/dL
   24 mEq/L
   3.9 mEq/L
   25 mg/dL
   100 mEq/L
   136 mEq/L
   32.3 %
   13.0 K/uL
        [image002.jpg]
                             [**2108-3-10**]  05:35 PM
                             [**2108-3-11**]  05:52 AM
                             [**2108-3-12**]  05:43 AM
   WBC
   15.4
   13.7
   13.0
   Hct
   34.8
   32.6
   32.3
   Plt
   222
   223
   230
   Cr
   1.6
   1.5
   1.5
   Glucose
   95
   133
   114
   Other labs: PT / PTT / INR:15.3/73.3/1.3, Ca++:8.4 mg/dL, Mg++:2.5
   mg/dL, PO4:3.7 mg/dL, T4 8.1, T3 69, TBG 0.81, T3Uptake 1.23, T4 index
   10.0
   Assessment and Plan
   52 yo male with history of morbid obesity, WPW, HTN, hyperlipidemia
   presents with A fib with RVR.
   .
   # A fib with RVR:  As the patient has a history of WPW with wide
   complex tachycardia in [**2107-1-7**], will refrain verapamil, and digoxin as
   can induce conduction down the accessory pathway.  Also, the patient
   has evidence of a [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 2186**] on [**Last Name (LF) 1163**], [**First Name3 (LF) **] had to refrain from DC
   cardioversion and chemical cardioversion with procainamide, unless the
   patient becomes hemodynamically unstable.  Likely febrile illness and
   over treatment with levothyroxine for Hashimoto's contributing to
   patient's a fib with rapid ventricular rate.
   - Continue Amiodarone drip at increased rate, with some boluses for
   attempt at rhythm/rate control
   - Continue to use metoprolol for rate control as BP allows
currently
   150mg TID with some lower pressures so cannot increase at this time.
   Consider slight amount of fluids, given fevers and low PO intake with
   illness, to inc BP a little and then might be able to inc metoprolol.
   - Continue heparin drip for anticoagulation
   - Will need cardioversion in future after coumadin therapeutic X3 weeks
   and then potentially an anti-arrhythmic to keep him in sinus rhythm
   - Pt has h/o VT. If pt has stable VT we will give lidocaine, if has AF
   with aberrancy will start procainimide. If unstable will DCCV.
   # [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]:
   - Confirmed presence by Dr. [**Last Name (STitle) 5195**] after reviewing [**Last Name (STitle) 1163**] from [**Hospital1 97**]
   - Continue Heparin drip with coumadin bridge until INR therapeutic
   # Febrile Illness:  Fever, leukocytosis and productive cough likely
   secondary to respiratory illness.  As the patient has had cough,
   malaise and general body weakness flu was on differential, as well as
   other viral illness or CAP.
   - CXR showed evidence of questionable RLL and LLL pneumonia. Will
   repeat CXR today to see if it has
blossomed
   - Continue doxy/ctx (first dose [**2108-3-10**])
   - UA shows possible UTI, antibiotic coverage with ceftriaxone
   - F/U  Blood, sputum and urine cultures, nasal aspirate culture all
   pending. Nasal aspirate antigen test negative so flu precautions d/c
   - If pt develops diarrhea, would consider C diff given recent
   antibiotic course, although unlikely.
   - Tylenol PRN
   - Consider IVF as above.
   # Hashimoto's Thyroiditis:  Pt's TSH at OSH was 0.07, however free T4
   and T3 within normal limits.
   - TSH here 0.08, free T 4 wnl, T3 low
   - continue to hold levothyroxine
   - Appreciate endocrine recs
   - Will have thyroid u/s today
   # Hyperlipidemia:  Unclear why the patient is not on a statin
   - Lipid studies with lipids at goal so no need for statin at this time
   given no h/o CAD or DM
   # FEN: 2gm NA diet, will monitor electrolytes
   # ACCESS: R IJ placed at [**Hospital1 97**], confirm placement with CXR, if
   requires multi lumen catheter as of tomorrow, will consider resiting.
   # PROPHYLAXIS: Heparin drip + coumadin
   # CODE: Full Code
   # DISPO: pending above
   # Contact:  [**Name (NI) 288**] [**Last Name (NamePattern1) 253**], sister, HCP, [**Telephone/Fax (1) 5190**], [**Name2 (NI) **] [**Last Name (NamePattern1) 5191**],
   fiance [**Telephone/Fax (1) 5192**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-3-10**] 05:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2108-03-12 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Started PO lopressor 100mg [**Hospital1 **] and then inc to 150BID as HRs still in
   130s-140s
   - Gave extra 10mg IV lopressor X 2 (9am and 2pm) because HR 130s-140s
   - Restarted Zoloft
   - Endocrine: check TFTs, thyroid u/s
   - Lipids: LDL 41, HDL 43, Chol 108
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-3-11**] 12:00 AM
   Infusions:
   Amiodarone - 1 mg/min
   Heparin Sodium - 3,500 units/hour
   Other ICU medications:
   Metoprolol - [**2108-3-11**] 03:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-12**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.5
   HR: 131 (126 - 151) bpm
   BP: 101/77(82) {89/55(62) - 160/116(119)} mmHg
   RR: 21 (12 - 28) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 75 Inch
             Total In:
                                                                  3,369 mL
                                                                    905 mL
   PO:
                                                                  1,830 mL
                                                                    500 mL
   TF:
   IVF:
                                                                  1,539 mL
                                                                    405 mL
   Blood products:
   Total out:
                                                                  1,769 mL
                                                                    740 mL
   Urine:
                                                                  1,769 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,600 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   GENERAL: obese male in mild respiratory distress, able to speak in
   complete, however short, sentences, diaphoretic, flushed
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   NECK: Supple unable to appreciate JVP given habitus
   CARDIAC: irregularly irregular rhythm, tachycardic, normal S1, S2. No
   thrills, lifts. No S3 or S4.
   LUNGS: Resp were unlabored, no accessory muscle use. CTAB, no crackles,
   wheezes or rhonchi
   ABDOMEN: Soft, obese NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: 2+ pitting edema to the thigh BL LE. No femoral bruits.
   SKIN: Stasis dermatitis BL, worse on left than right with redness worse
   on left than right, no ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1 PT 1
   Left: Carotid 2+ Femoral 2+ DP 1 PT 1
   Labs / Radiology
   230 K/uL
   11.0 g/dL
   114 mg/dL
   1.5 mg/dL
   24 mEq/L
   3.9 mEq/L
   25 mg/dL
   100 mEq/L
   136 mEq/L
   32.3 %
   13.0 K/uL
        [image002.jpg]
                             [**2108-3-10**]  05:35 PM
                             [**2108-3-11**]  05:52 AM
                             [**2108-3-12**]  05:43 AM
   WBC
   15.4
   13.7
   13.0
   Hct
   34.8
   32.6
   32.3
   Plt
   222
   223
   230
   Cr
   1.6
   1.5
   1.5
   Glucose
   95
   133
   114
   Other labs: PT / PTT / INR:15.3/73.3/1.3, Ca++:8.4 mg/dL, Mg++:2.5
   mg/dL, PO4:3.7 mg/dL, T4 8.1, T3 69, TBG 0.81, T3Uptake 1.23, T4 index
   10.0
   Assessment and Plan
   52 yo male with history of morbid obesity, WPW, HTN, hyperlipidemia
   presents with A fib with RVR.
   .
   # A fib with RVR:  As the patient has a history of WPW with wide
   complex tachycardia in [**2107-1-7**], will refrain verapamil, and digoxin as
   can induce conduction down the accessory pathway.  Also, the patient
   has evidence of a [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 2186**] on [**Last Name (LF) 1163**], [**First Name3 (LF) **] had to refrain from DC
   cardioversion and chemical cardioversion with procainamide, unless the
   patient becomes hemodynamically unstable.  Likely febrile illness and
   over treatment with levothyroxine for Hashimoto's contributing to
   patient's a fib with rapid ventricular rate.
   - Continue Amiodarone drip at increased rate, with some boluses for
   attempt at rhythm/rate control
   - Continue to use metoprolol for rate control as BP allows
currently
   150mg TID with some lower pressures so cannot increase at this time.
   Consider slight amount of fluids, given fevers and low PO intake with
   illness, to inc BP a little and then might be able to inc metoprolol.
   - D/W endocrine re switch to propanolol
   - c/s esmolol drip or diltiazem ggt if rate still elevated
   - Continue heparin drip for anticoagulation
   - Will need cardioversion in future after coumadin therapeutic X3 weeks
   and then potentially an anti-arrhythmic to keep him in sinus rhythm
   - Pt has h/o VT. If pt has stable VT we will give lidocaine, if has AF
   with aberrancy will start procainimide. If unstable will DCCV.
   # [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]:
   - Confirmed presence by Dr. [**Last Name (STitle) 5195**] after reviewing [**Last Name (STitle) 1163**] from [**Hospital1 97**]
   - Continue Heparin drip with coumadin bridge until INR therapeutic
   # Febrile Illness: Presentation and CXR consistent with CAP.
   - Continue doxy/ctx (first dose [**2108-3-10**])
   - UA shows possible UTI, antibiotic coverage with ceftriaxone
   - F/U  Blood, sputum and urine cultures, nasal aspirate culture all
   pending. Nasal aspirate antigen test negative so flu precautions d/c
   - Tylenol PRN
   - Consider IVF as above.
   # Hashimoto's Thyroiditis: overtreatment with levoxyl. Following TFTs
   - continue to hold levothyroxine
   - Appreciate endocrine recs
   - Will have thyroid u/s today
   # Hyperlipidemia:  Unclear why the patient is not on a statin
   - Lipid studies with lipids at goal so no need for statin at this time
   given no h/o CAD or DM
   # FEN: 2gm NA diet, will monitor electrolytes
   # ACCESS: R IJ placed at [**Hospital1 97**], confirm placement with CXR, if
   requires multi lumen catheter as of tomorrow, will consider resiting.
   # PROPHYLAXIS: Heparin drip + coumadin
   # CODE: Full Code
   # DISPO: pending above
   # Contact:  [**Name (NI) 288**] [**Last Name (NamePattern1) 253**], sister, HCP, [**Telephone/Fax (1) 5190**], [**Name2 (NI) **] [**Last Name (NamePattern1) 5191**],
   fiance [**Telephone/Fax (1) 5192**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-3-10**] 05:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2108-03-12 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Started PO lopressor 100mg [**Hospital1 **] and then inc to 150BID as HRs still in
   130s-140s
   - Gave extra 10mg IV lopressor X 2 (9am and 2pm) because HR 130s-140s
   - Restarted Zoloft
   - Endocrine called - start levoxyl 150mcg daily and check TFTs
   - Lipids: LDL 41, HDL 43, Chol 108
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-3-11**] 12:00 AM
   Infusions:
   Amiodarone - 1 mg/min
   Heparin Sodium - 3,500 units/hour
   Other ICU medications:
   Metoprolol - [**2108-3-11**] 03:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-12**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.5
   HR: 131 (126 - 151) bpm
   BP: 101/77(82) {89/55(62) - 160/116(119)} mmHg
   RR: 21 (12 - 28) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 75 Inch
             Total In:
                                                                  3,369 mL
                                                                    905 mL
   PO:
                                                                  1,830 mL
                                                                    500 mL
   TF:
   IVF:
                                                                  1,539 mL
                                                                    405 mL
   Blood products:
   Total out:
                                                                  1,769 mL
                                                                    740 mL
   Urine:
                                                                  1,769 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,600 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   GENERAL: obese male in mild respiratory distress, able to speak in
   complete, however short, sentences, diaphoretic, flushed
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   NECK: Supple unable to appreciate JVP given habitus
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   irregularly irregular rhythm, tachycardic, normal S1, S2. No thrills,
   lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi, however difficult to appreciate secondary to habitus.
   ABDOMEN: Soft, obese NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: 2+ pitting edema to the thigh BL LE. No femoral bruits.
   SKIN: Stasis dermatitis BL, worse on left than right with redness worse
   on left than right, no ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1 PT 1
   Left: Carotid 2+ Femoral 2+ DP 1 PT 1
   Labs / Radiology
   230 K/uL
   11.0 g/dL
   114 mg/dL
   1.5 mg/dL
   26 mEq/L
   4.1 mEq/L
   25 mg/dL
   101 mEq/L
   136 mEq/L
   32.3 %
   13.0 K/uL
        [image002.jpg]
                             [**2108-3-10**]  05:35 PM
                             [**2108-3-11**]  05:52 AM
                             [**2108-3-12**]  05:43 AM
   WBC
   15.4
   13.7
   13.0
   Hct
   34.8
   32.6
   32.3
   Plt
   222
   223
   230
   Cr
   1.6
   1.5
   1.5
   Glucose
   95
   133
   114
   Other labs: PT / PTT / INR:15.3/73.3/1.3, Ca++:8.4 mg/dL, Mg++:2.5
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   52 yo male with history of morbid obesity, WPW, HTN, hyperlipidemia
   presents with A fib with RVR.
   .
   # A fib with RVR:  As the patient has a history of WPW with wide
   complex tachycardia in [**2107-1-7**], will refrain from AV nodal blockade,
   especially verapamil, and digoxin as can induce conduction down the
   accessory pathway.  Also, as the patient has evidence of a [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 2186**]
   on [**Last Name (LF) 1163**], [**First Name3 (LF) **] had to refrain from DC cardioversion and chemical
   cardioversion with procainamide, unless the patient becomes
   hemodynamically unstable.  Likely febrile illness and over treatment
   with levothyroxine for Hashimoto's contributing to patient's a fib with
   rapid ventricular rate.
   - Continue Amiodarone drip at increased rate, with some boluses for
   attempt at rhythm/rate control
   - Continue to use metoprolol for rate control-> will start PO
   metoprolol and give another bolus IV metoprolol.
   - Continue heparin drip for anticoagulation
   - Will use lasix as needed for signs of heart failure, as the patient
   has been in a tachyarrhythmia for at least the last 24 hours and is at
   risk for tachycardia induced cardiomyopathy.
   - Will need cardioversion in future after coumadin therapeutic X3 weeks
   and then potentially an anti-arrhythmic to keep him in sinus rhythm
   - If pt has stable VT we will give lidocaine, if has AF with aberrancy
   will start procainimide. If unstable will DCCV.
   .
   # [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]:
   - Confirmed presence by Dr. [**Last Name (STitle) 5195**] after reviewing [**Last Name (STitle) 1163**] from [**Hospital1 97**]
   - Continue Heparin drip
   -Start coumadin today
   .
   # Febrile Illness:  Fever, leukocytosis and productive cough likely
   secondary to respiratory illness.  As the patient has had cough,
   malaise and general body weakness flu is on differential, as well as
   other viral illness or CAP.
   - CXR showed evidence of questionable RLL and LLL pneumonia
   - Restarted Ceftriaxone (initially started at OSH) and doxycycline
   because initial concern about azithromycin and levofloxacin can prolong
   the QT interval although should not be a risk in this patient given
   normal QT on previous EKGs.
   - Continue doxy/ctx
   - UA shows possible UTI, antibiotic coverage with ceftriaxone
   - F/U  Blood, sputum and urine cultures, nasal aspirate
   - continue droplet precautions until flu ruled out
   - If pt develops diarrhea, would consider C diff given recent
   antibiotic course, although unlikely.
   - Tylenol PRN
   .
   # Hypertension:
   - Continue to hold antihypertensives in the setting of A fib with RVR
   with episode of hypotension at OSH.  Will reevaluate and add back home
   antihypertensives, starting with the ACE as tolerated.
   .
   # Hyperlipidemia:  Unclear why the patient is not on a statin
   - F/U lipid studies
   .
   # Hashimoto's Thyroiditis:  Pt's TSH at OSH was 0.07, however free T4
   and T3 within normal limits.
   - TSH here 0.08, free T 4 wnl
   - continue to hold levothyroxine
   - consider endocrine cls
   .
   # Depression:  Will restart sertraline today
   .
   # S/P Gastric Banding:  Continue vitamin supplementation and diet
   restrictions.
   .
   # OSA:  Will use home CPAP settings, pressure of 10, while inpatient
   .
   # FEN: 2gm NA diet, will monitor electrolytes
   .
   # ACCESS: R IJ placed at [**Hospital1 97**], confirm placement with CXR, if
   requires multi lumen catheter as of tomorrow, will consider resiting.
   .
   # PROPHYLAXIS: Heparin drip + coumadin
   .
   # CODE: Full Code
   .
   # DISPO: pending above
   .
   # Contact:  [**Name (NI) 288**] [**Last Name (NamePattern1) 253**], sister, HCP, [**Telephone/Fax (1) 5190**], [**Name2 (NI) **] [**Last Name (NamePattern1) 5191**],
   fiance [**Telephone/Fax (1) 5192**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-3-10**] 05:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2108-03-12 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Started PO lopressor 100mg [**Hospital1 **] and then inc to 150BID as HRs still in
   130s-140s
   - Gave extra 10mg IV lopressor X 2 (9am and 2pm) because HR 130s-140s
   - Restarted Zoloft
   - Endocrine called - start levoxyl 150mcg daily and check TFTs
   - Lipids: LDL 41, HDL 43, Chol 108
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-3-11**] 12:00 AM
   Infusions:
   Amiodarone - 1 mg/min
   Heparin Sodium - 3,500 units/hour
   Other ICU medications:
   Metoprolol - [**2108-3-11**] 03:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-12**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.5
   HR: 131 (126 - 151) bpm
   BP: 101/77(82) {89/55(62) - 160/116(119)} mmHg
   RR: 21 (12 - 28) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 75 Inch
             Total In:
                                                                  3,369 mL
                                                                    905 mL
   PO:
                                                                  1,830 mL
                                                                    500 mL
   TF:
   IVF:
                                                                  1,539 mL
                                                                    405 mL
   Blood products:
   Total out:
                                                                  1,769 mL
                                                                    740 mL
   Urine:
                                                                  1,769 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,600 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   230 K/uL
   11.0 g/dL
   114 mg/dL
   1.5 mg/dL
   26 mEq/L
   4.1 mEq/L
   25 mg/dL
   101 mEq/L
   136 mEq/L
   32.3 %
   13.0 K/uL
        [image002.jpg]
                             [**2108-3-10**]  05:35 PM
                             [**2108-3-11**]  05:52 AM
                             [**2108-3-12**]  05:43 AM
   WBC
   15.4
   13.7
   13.0
   Hct
   34.8
   32.6
   32.3
   Plt
   222
   223
   230
   Cr
   1.6
   1.5
   1.5
   Glucose
   95
   133
   114
   Other labs: PT / PTT / INR:15.3/73.3/1.3, Ca++:8.4 mg/dL, Mg++:2.5
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-3-10**] 05:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2108-03-13 06:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   propanolol 220 tid
   dilt ggt at 6pm
   [**Hospital1 **] TTE: no thrombus but cannot eval atrial appendage, OSH TEE
   interpretation: probable clot per verbal report
   Endocrine: may restart levothyroxine 150 mcg in am. Normothyroid
   Thyroid us negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-3-12**] 11:59 PM
   Infusions:
   Diltiazem - 20 mg/hour
   Heparin Sodium - 3,500 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-13**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (97
   HR: 102 (102 - 139) bpm
   BP: 99/72(78) {89/56(64) - 145/102(113)} mmHg
   RR: 15 (13 - 30) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 75 Inch
             Total In:
                                                                  3,272 mL
                                                                    333 mL
   PO:
                                                                  2,060 mL
             TF:
   IVF:
                                                                  1,212 mL
                                                                    333 mL
   Blood products:
   Total out:
                                                                  2,370 mL
                                                                  1,250 mL
   Urine:
                                                                  2,370 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    902 mL
                                                                   -917 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 95%
   ABG: ////
   Physical Examination
   GENERAL: obese male in mild respiratory distress, able to speak in
   complete, however short, sentences, diaphoretic, flushed
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   NECK: Supple unable to appreciate JVP given habitus
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   irregularly irregular rhythm, tachycardic, normal S1, S2. No thrills,
   lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi, however difficult to appreciate secondary to habitus.
   ABDOMEN: Soft, obese NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: 2+ pitting edema to the thigh BL LE. No femoral bruits.
   SKIN: Stasis dermatitis BL, worse on left than right with redness worse
   on left than right, no ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1 PT 1
   Left: Carotid 2+ Femoral 2+ DP 1 PT 1
   Labs / Radiology
   290 K/uL
   10.9 g/dL
   92 mg/dL
   1.3 mg/dL
   27 mEq/L
   4.4 mEq/L
   25 mg/dL
   99 mEq/L
   134 mEq/L
   32.2 %
   13.2 K/uL
        [image002.jpg]
                             [**2108-3-10**]  05:35 PM
                             [**2108-3-11**]  05:52 AM
                             [**2108-3-12**]  05:43 AM
   WBC
   15.4
   13.7
   13.0
   Hct
   34.8
   32.6
   32.3
   Plt
   222
   223
   230
   Cr
   1.6
   1.5
   1.5
   Glucose
   95
   133
   114
   Other labs: PT / PTT / INR:15.3/73.3/1.3, Ca++:8.4 mg/dL, Mg++:2.5
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   52 yo male with history of morbid obesity, WPW, HTN, hyperlipidemia
   presents with A fib with RVR.
   .
   # A fib with RVR:  Unable to chemical or DC cardiovert given [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 2186**] on TEE, unless the patient becomes hemodynamically unstable.
   Likely febrile illness and over treatment with levothyroxine for
   Hashimoto's contributing to patient's a fib with rapid ventricular
   rate.
   - Continue Amiodarone drip at increased rate, with some boluses for
   attempt at rhythm/rate control
   - D/W endocrine re switch to propanolol
   - continue diltiazem ggt as rate still elevated
   - Continue heparin drip for anticoagulation
   - Will need cardioversion in future after coumadin therapeutic X3 weeks
   and then potentially an anti-arrhythmic to keep him in sinus rhythm
   - Pt has h/o VT. If pt has stable VT we will give lidocaine, if has AF
   with aberrancy will start procainimide. If unstable will DCCV.
   # [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]:
   - Confirmed presence by Dr. [**Last Name (STitle) 5195**] after reviewing TEE from [**Hospital1 97**]
   - Continue Heparin drip with coumadin bridge until INR therapeutic
   # Febrile Illness: Presentation and CXR consistent with CAP.
   - Continue doxy/ctx (first dose [**2108-3-10**])
   - Urine cultures negative
   - F/U  Blood and sputum cultures
   - nasal aspirate negative so flu precautions d/c
   - Tylenol PRN
   - Consider IVF as may be volume depleted contributing to a fib with RVR
   # Hashimoto's Thyroiditis: overtreatment with levoxyl. Following TFTs
   - continue to hold levothyroxine
   - Appreciate endocrine recs
   - thyroid U/S negative
   # Hyperlipidemia:
   - Lipid studies with lipids at goal so no need for statin at this time
   given no h/o CAD or DM
   # Contact:  [**Name (NI) 288**] [**Last Name (NamePattern1) 253**], sister, HCP, [**Telephone/Fax (1) 5190**], [**Name2 (NI) **] [**Last Name (NamePattern1) 5191**],
   fiance [**Telephone/Fax (1) 5192**]
   ICU Care
   Nutrition: 2gm NA diet, will monitor electrolytes
   Glycemic Control:
   Lines: R IJ placed at [**Hospital1 97**]
   Multi Lumen - [**2108-3-10**] 05:02 PM
   Prophylaxis:
   DVT: Heparin drip + coumadin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending

2108-03-13 06:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   propanolol 220 tid
   dilt ggt at 6pm
   [**Hospital1 **] TTE: no thrombus but cannot eval atrial appendage, OSH TEE
   interpretation: probable clot per verbal report
   Endocrine: may restart levothyroxine 150 mcg in am. Normothyroid
   Thyroid us negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-3-12**] 11:59 PM
   Infusions:
   Diltiazem - 20 mg/hour
   Heparin Sodium - 3,500 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-13**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (97
   HR: 102 (102 - 139) bpm
   BP: 99/72(78) {89/56(64) - 145/102(113)} mmHg
   RR: 15 (13 - 30) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 75 Inch
             Total In:
                                                                  3,272 mL
                                                                    333 mL
   PO:
                                                                  2,060 mL
             TF:
   IVF:
                                                                  1,212 mL
                                                                    333 mL
   Blood products:
   Total out:
                                                                  2,370 mL
                                                                  1,250 mL
   Urine:
                                                                  2,370 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    902 mL
                                                                   -917 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 95%
   ABG: ////
   Physical Examination
   GENERAL: obese male in mild respiratory distress, able to speak in
   complete, however short, sentences, diaphoretic, flushed
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   NECK: Supple unable to appreciate JVP given habitus
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   irregularly irregular rhythm, tachycardic, normal S1, S2. No thrills,
   lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi, however difficult to appreciate secondary to habitus.
   ABDOMEN: Soft, obese NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: 2+ pitting edema to the thigh BL LE. No femoral bruits.
   SKIN: Stasis dermatitis BL, worse on left than right with redness worse
   on left than right, no ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1 PT 1
   Left: Carotid 2+ Femoral 2+ DP 1 PT 1
   Labs / Radiology
   290 K/uL
   10.9 g/dL
   92 mg/dL
   1.3 mg/dL
   27 mEq/L
   4.4 mEq/L
   25 mg/dL
   99 mEq/L
   134 mEq/L
   32.2 %
   13.2 K/uL
        [image002.jpg]
                             [**2108-3-10**]  05:35 PM
                             [**2108-3-11**]  05:52 AM
                             [**2108-3-12**]  05:43 AM
   WBC
   15.4
   13.7
   13.0
   Hct
   34.8
   32.6
   32.3
   Plt
   222
   223
   230
   Cr
   1.6
   1.5
   1.5
   Glucose
   95
   133
   114
   Other labs: PT / PTT / INR:15.3/73.3/1.3, Ca++:8.4 mg/dL, Mg++:2.5
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   52 yo male with history of morbid obesity, WPW, HTN, hyperlipidemia
   presents with A fib with RVR.
   # Tachycardia:  most likely AVRT or A Fib with RVR and variable
   conduction. A possibility for concealed bypass tract exists.  On dig
   ggt and propanolo at total of 600 mg daily. Rate improved with more
   pauses notable on tele.
   - transition to oral diltiazem
   - if no rate control will add digoxin
   - Continue heparin drip for anticoagulation.
   - Will need cardioversion in future after coumadin therapeutic X3 weeks
   and then potentially an anti-arrhythmic to keep him in sinus rhythm
   - Pt has h/o VT. If pt has stable VT we will give lidocaine, if has AF
   with aberrancy will start procainimide. If unstable will DCCV.
   # [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]: Confirmed presence by Dr. [**Last Name (STitle) 5195**] after reviewing TEE
   from [**Hospital1 97**]
   - Continue Heparin drip with coumadin bridge until INR therapeutic
   # Febrile Illness: Presentation and CXR consistent with CAP.
   - Continue doxy/ctx (first dose [**2108-3-10**])
   - Urine cultures negative
   - F/U  Blood and sputum cultures
   # Hashimoto's Thyroiditis: overtreatment with levoxyl. Following TFTs
   - resolved per endocrine, who also suggests restarting levothyroxine
   - care with propanolol as it prevents conversion of T4 to T3.
   # Hyperlipidemia:
   - Lipid studies with lipids at goal so no need for statin at this time
   given no h/o CAD or DM
   # Contact:  [**Name (NI) 288**] [**Last Name (NamePattern1) 253**], sister, HCP, [**Telephone/Fax (1) 5190**], [**Name2 (NI) **] [**Last Name (NamePattern1) 5191**],
   fiance [**Telephone/Fax (1) 5192**]
   ICU Care
   Nutrition: 2gm NA diet, will monitor electrolytes
   Glycemic Control:
   Lines: R IJ placed at [**Hospital1 97**]
   Multi Lumen - [**2108-3-10**] 05:02 PM
   Prophylaxis:
   DVT: Heparin drip + coumadin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending
   ------ Protected Section ------
   I reviewed data and ,overnight  management with house staff.  Examined
   Pt.
   Agree with treatment plan.
   Spent 35mins over case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2108-3-13**] 13:01 ------

2108-03-13 06:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2108-3-12**] 08:26 AM
   Thyroid US
 TRANSTHORACIC ECHO - At [**2108-3-12**] 09:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-3-12**] 11:59 PM
   Infusions:
   Diltiazem - 20 mg/hour
   Heparin Sodium - 3,500 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-13**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (97
   HR: 102 (102 - 139) bpm
   BP: 99/72(78) {89/56(64) - 145/102(113)} mmHg
   RR: 15 (13 - 30) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 75 Inch
             Total In:
                                                                  3,272 mL
                                                                    333 mL
   PO:
                                                                  2,060 mL
             TF:
   IVF:
                                                                  1,212 mL
                                                                    333 mL
   Blood products:
   Total out:
                                                                  2,370 mL
                                                                  1,250 mL
   Urine:
                                                                  2,370 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    902 mL
                                                                   -917 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 95%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   230 K/uL
   11.0 g/dL
   114 mg/dL
   1.5 mg/dL
   24 mEq/L
   3.9 mEq/L
   25 mg/dL
   100 mEq/L
   136 mEq/L
   32.3 %
   13.0 K/uL
        [image002.jpg]
                             [**2108-3-10**]  05:35 PM
                             [**2108-3-11**]  05:52 AM
                             [**2108-3-12**]  05:43 AM
   WBC
   15.4
   13.7
   13.0
   Hct
   34.8
   32.6
   32.3
   Plt
   222
   223
   230
   Cr
   1.6
   1.5
   1.5
   Glucose
   95
   133
   114
   Other labs: PT / PTT / INR:15.3/73.3/1.3, Ca++:8.4 mg/dL, Mg++:2.5
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ATRIAL FIBRILLATION (AFIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-3-10**] 05:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2108-03-13 06:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   propanolol 220 tid
   dilt ggt at 6pm
   [**Hospital1 **] TTE: no thrombus but cannot eval atrial appendage, OSH TEE
   interpretation: probable clot per verbal report
   Endocrine: may restart levothyroxine 150 mcg in am. Normothyroid
   Thyroid us negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-3-12**] 11:59 PM
   Infusions:
   Diltiazem - 20 mg/hour
   Heparin Sodium - 3,500 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-13**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (97
   HR: 102 (102 - 139) bpm
   BP: 99/72(78) {89/56(64) - 145/102(113)} mmHg
   RR: 15 (13 - 30) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 75 Inch
             Total In:
                                                                  3,272 mL
                                                                    333 mL
   PO:
                                                                  2,060 mL
             TF:
   IVF:
                                                                  1,212 mL
                                                                    333 mL
   Blood products:
   Total out:
                                                                  2,370 mL
                                                                  1,250 mL
   Urine:
                                                                  2,370 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    902 mL
                                                                   -917 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 95%
   ABG: ////
   Physical Examination
   GENERAL: obese male in mild respiratory distress, able to speak in
   complete, however short, sentences, diaphoretic, flushed
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   NECK: Supple unable to appreciate JVP given habitus
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   irregularly irregular rhythm, tachycardic, normal S1, S2. No thrills,
   lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi, however difficult to appreciate secondary to habitus.
   ABDOMEN: Soft, obese NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: 2+ pitting edema to the thigh BL LE. No femoral bruits.
   SKIN: Stasis dermatitis BL, worse on left than right with redness worse
   on left than right, no ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1 PT 1
   Left: Carotid 2+ Femoral 2+ DP 1 PT 1
   Labs / Radiology
   230 K/uL
   11.0 g/dL
   114 mg/dL
   1.5 mg/dL
   24 mEq/L
   3.9 mEq/L
   25 mg/dL
   100 mEq/L
   136 mEq/L
   32.3 %
   13.0 K/uL
        [image002.jpg]
                             [**2108-3-10**]  05:35 PM
                             [**2108-3-11**]  05:52 AM
                             [**2108-3-12**]  05:43 AM
   WBC
   15.4
   13.7
   13.0
   Hct
   34.8
   32.6
   32.3
   Plt
   222
   223
   230
   Cr
   1.6
   1.5
   1.5
   Glucose
   95
   133
   114
   Other labs: PT / PTT / INR:15.3/73.3/1.3, Ca++:8.4 mg/dL, Mg++:2.5
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ATRIAL FIBRILLATION (AFIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-3-10**] 05:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2108-03-13 06:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   propanolol 220 tid
   dilt ggt at 6pm
   [**Hospital1 **] TTE: no thrombus but cannot eval atrial appendage, OSH TEE
   interpretation: probable clot per verbal report
   Endocrine: may restart levothyroxine 150 mcg in am. Normothyroid
   Thyroid us negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-3-12**] 11:59 PM
   Infusions:
   Diltiazem - 20 mg/hour
   Heparin Sodium - 3,500 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-13**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (97
   HR: 102 (102 - 139) bpm
   BP: 99/72(78) {89/56(64) - 145/102(113)} mmHg
   RR: 15 (13 - 30) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 75 Inch
             Total In:
                                                                  3,272 mL
                                                                    333 mL
   PO:
                                                                  2,060 mL
             TF:
   IVF:
                                                                  1,212 mL
                                                                    333 mL
   Blood products:
   Total out:
                                                                  2,370 mL
                                                                  1,250 mL
   Urine:
                                                                  2,370 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    902 mL
                                                                   -917 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 95%
   ABG: ////
   Physical Examination
   GENERAL: obese male in mild respiratory distress, able to speak in
   complete, however short, sentences, diaphoretic, flushed
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   NECK: Supple unable to appreciate JVP given habitus
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   irregularly irregular rhythm, tachycardic, normal S1, S2. No thrills,
   lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi, however difficult to appreciate secondary to habitus.
   ABDOMEN: Soft, obese NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: 2+ pitting edema to the thigh BL LE. No femoral bruits.
   SKIN: Stasis dermatitis BL, worse on left than right with redness worse
   on left than right, no ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1 PT 1
   Left: Carotid 2+ Femoral 2+ DP 1 PT 1
   Labs / Radiology
   290 K/uL
   10.9 g/dL
   92 mg/dL
   1.3 mg/dL
   27 mEq/L
   4.4 mEq/L
   25 mg/dL
   99 mEq/L
   134 mEq/L
   32.2 %
   13.2 K/uL
        [image002.jpg]
                             [**2108-3-10**]  05:35 PM
                             [**2108-3-11**]  05:52 AM
                             [**2108-3-12**]  05:43 AM
   WBC
   15.4
   13.7
   13.0
   Hct
   34.8
   32.6
   32.3
   Plt
   222
   223
   230
   Cr
   1.6
   1.5
   1.5
   Glucose
   95
   133
   114
   Other labs: PT / PTT / INR:15.3/73.3/1.3, Ca++:8.4 mg/dL, Mg++:2.5
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   52 yo male with history of morbid obesity, WPW, HTN, hyperlipidemia
   presents with A fib with RVR.
   # Tachycardia:  most likely AVRT or A Fib with RVR and variable
   conduction. A possibility for concealed bypass tract exists.  On dig
   ggt and propanolo at total of 600 mg daily. Rate improved with more
   pauses notable on tele.
   - transition to oral diltiazem
   - if no rate control will add digoxin
   - Continue heparin drip for anticoagulation.
   - Will need cardioversion in future after coumadin therapeutic X3 weeks
   and then potentially an anti-arrhythmic to keep him in sinus rhythm
   - Pt has h/o VT. If pt has stable VT we will give lidocaine, if has AF
   with aberrancy will start procainimide. If unstable will DCCV.
   # [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]: Confirmed presence by Dr. [**Last Name (STitle) 5195**] after reviewing TEE
   from [**Hospital1 97**]
   - Continue Heparin drip with coumadin bridge until INR therapeutic
   # Febrile Illness: Presentation and CXR consistent with CAP.
   - Continue doxy/ctx (first dose [**2108-3-10**])
   - Urine cultures negative
   - F/U  Blood and sputum cultures
   # Hashimoto's Thyroiditis: overtreatment with levoxyl. Following TFTs
   - resolved per endocrine, who also suggests restarting levothyroxine
   - care with propanolol as it prevents conversion of T4 to T3.
   # Hyperlipidemia:
   - Lipid studies with lipids at goal so no need for statin at this time
   given no h/o CAD or DM
   # Contact:  [**Name (NI) 288**] [**Last Name (NamePattern1) 253**], sister, HCP, [**Telephone/Fax (1) 5190**], [**Name2 (NI) **] [**Last Name (NamePattern1) 5191**],
   fiance [**Telephone/Fax (1) 5192**]
   ICU Care
   Nutrition: 2gm NA diet, will monitor electrolytes
   Glycemic Control:
   Lines: R IJ placed at [**Hospital1 97**]
   Multi Lumen - [**2108-3-10**] 05:02 PM
   Prophylaxis:
   DVT: Heparin drip + coumadin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending

2108-03-13 06:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   propanolol 220 tid
   dilt ggt at 6pm
   [**Hospital1 **] TTE: no thrombus but cannot eval atrial appendage, OSH [**Hospital1 1163**]
   interpretation: probable clot per verbal report
   Endocrine: may restart levothyroxine 150 mcg in am. Normothyroid
   Thyroid us negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-3-12**] 11:59 PM
   Infusions:
   Diltiazem - 20 mg/hour
   Heparin Sodium - 3,500 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-13**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (97
   HR: 102 (102 - 139) bpm
   BP: 99/72(78) {89/56(64) - 145/102(113)} mmHg
   RR: 15 (13 - 30) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 75 Inch
             Total In:
                                                                  3,272 mL
                                                                    333 mL
   PO:
                                                                  2,060 mL
             TF:
   IVF:
                                                                  1,212 mL
                                                                    333 mL
   Blood products:
   Total out:
                                                                  2,370 mL
                                                                  1,250 mL
   Urine:
                                                                  2,370 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    902 mL
                                                                   -917 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 95%
   ABG: ////
   Physical Examination
   GENERAL: obese male in mild respiratory distress, able to speak in
   complete, however short, sentences, diaphoretic, flushed
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   NECK: Supple unable to appreciate JVP given habitus
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   irregularly irregular rhythm, tachycardic, normal S1, S2. No thrills,
   lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi, however difficult to appreciate secondary to habitus.
   ABDOMEN: Soft, obese NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: 2+ pitting edema to the thigh BL LE. No femoral bruits.
   SKIN: Stasis dermatitis BL, worse on left than right with redness worse
   on left than right, no ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1 PT 1
   Left: Carotid 2+ Femoral 2+ DP 1 PT 1
   Labs / Radiology
   230 K/uL
   11.0 g/dL
   114 mg/dL
   1.5 mg/dL
   24 mEq/L
   3.9 mEq/L
   25 mg/dL
   100 mEq/L
   136 mEq/L
   32.3 %
   13.0 K/uL
        [image002.jpg]
                             [**2108-3-10**]  05:35 PM
                             [**2108-3-11**]  05:52 AM
                             [**2108-3-12**]  05:43 AM
   WBC
   15.4
   13.7
   13.0
   Hct
   34.8
   32.6
   32.3
   Plt
   222
   223
   230
   Cr
   1.6
   1.5
   1.5
   Glucose
   95
   133
   114
   Other labs: PT / PTT / INR:15.3/73.3/1.3, Ca++:8.4 mg/dL, Mg++:2.5
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   52 yo male with history of morbid obesity, WPW, HTN, hyperlipidemia
   presents with A fib with RVR.
   .
   # A fib with RVR:  As the patient has a history of WPW with wide
   complex tachycardia in [**2107-1-7**], will refrain verapamil, and digoxin as
   can induce conduction down the accessory pathway.  Also, the patient
   has evidence of a [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 2186**] on [**Last Name (LF) 1163**], [**First Name3 (LF) **] had to refrain from DC
   cardioversion and chemical cardioversion with procainamide, unless the
   patient becomes hemodynamically unstable.  Likely febrile illness and
   over treatment with levothyroxine for Hashimoto's contributing to
   patient's a fib with rapid ventricular rate.
   - Continue Amiodarone drip at increased rate, with some boluses for
   attempt at rhythm/rate control
   - Continue to use metoprolol for rate control as BP allows
currently
   150mg TID with some lower pressures so cannot increase at this time.
   Consider slight amount of fluids, given fevers and low PO intake with
   illness, to inc BP a little and then might be able to inc metoprolol.
   - D/W endocrine re switch to propanolol
   - c/s esmolol drip or diltiazem ggt if rate still elevated
   - Continue heparin drip for anticoagulation
   - Will need cardioversion in future after coumadin therapeutic X3 weeks
   and then potentially an anti-arrhythmic to keep him in sinus rhythm
   - Pt has h/o VT. If pt has stable VT we will give lidocaine, if has AF
   with aberrancy will start procainimide. If unstable will DCCV.
   # [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]:
   - Confirmed presence by Dr. [**Last Name (STitle) 5195**] after reviewing [**Last Name (STitle) 1163**] from [**Hospital1 97**]
   - Continue Heparin drip with coumadin bridge until INR therapeutic
   # Febrile Illness: Presentation and CXR consistent with CAP.
   - Continue doxy/ctx (first dose [**2108-3-10**])
   - UA shows possible UTI, antibiotic coverage with ceftriaxone
   - F/U  Blood, sputum and urine cultures, nasal aspirate culture all
   pending. Nasal aspirate antigen test negative so flu precautions d/c
   - Tylenol PRN
   - Consider IVF as above.
   # Hashimoto's Thyroiditis: overtreatment with levoxyl. Following TFTs
   - continue to hold levothyroxine
   - Appreciate endocrine recs
   - Will have thyroid u/s today
   # Hyperlipidemia:  Unclear why the patient is not on a statin
   - Lipid studies with lipids at goal so no need for statin at this time
   given no h/o CAD or DM
   # FEN: 2gm NA diet, will monitor electrolytes
   # ACCESS: R IJ placed at [**Hospital1 97**], confirm placement with CXR, if
   requires multi lumen catheter as of tomorrow, will consider resiting.
   # PROPHYLAXIS: Heparin drip + coumadin
   # CODE: Full Code
   # DISPO: pending above
   # Contact:  [**Name (NI) 288**] [**Last Name (NamePattern1) 253**], sister, HCP, [**Telephone/Fax (1) 5190**], [**Name2 (NI) **] [**Last Name (NamePattern1) 5191**],
   fiance [**Telephone/Fax (1) 5192**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-3-10**] 05:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2108-03-14 06:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2108-3-13**]:
   - Dilt 120mg PO QID started today
   - HR better controlled in 80's to 100's
   - Restarted home antihypertensives today as BP elevated, dyazide and
   lisinopril
   - In 2:1 A flutter at a rate of 120 from 1830 until 0300
   - Discontinued Dilt PO, increased dilt drip to 20
   - After back in a fib at rate of 80s-90s, added back PO dilt 120mg in
   attempt to wean off dilt drip
   S: c/o cough X 1 year. No hemoptysis. Feels like gunk pools at back of
   throat. Also would like stool softener.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-3-14**] 12:00 AM
   Infusions:
   Diltiazem - 15 mg/hour
   Heparin Sodium - 3,500 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-14**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.7
   HR: 95 (80 - 128) bpm
   BP: 126/72(80) {84/21(47) - 161/128(137)} mmHg
   RR: 16 (10 - 30) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 75 Inch
             Total In:
                                                                  2,225 mL
                                                                    506 mL
   PO:
                                                                    960 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,265 mL
                                                                    386 mL
   Blood products:
   Total out:
                                                                  4,570 mL
                                                                  1,180 mL
   Urine:
                                                                  4,570 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,345 mL
                                                                   -674 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   GENERAL: obese male NAD, not diaphoretic
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   NECK: Supple unable to appreciate JVP given habitus
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   irregularly irregular rhythm, tachycardic, normal S1, S2. No thrills,
   lifts. No S3 or S4.
   LUNGS: Resp were unlabored, no accessory muscle use. Wheezing on
   expiration left upper lobe
   ABDOMEN: Soft, obese NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: 2+ pitting edema to the thigh BL LE. No femoral bruits.
   SKIN: Stasis dermatitis BL, worse on left than right with redness worse
   on left than right, no ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1 PT 1
   Left: Carotid 2+ Femoral 2+ DP 1 PT 1
   Labs / Radiology
   324 K/uL
   11.0 g/dL
   99 mg/dL
   1.4 mg/dL
   24 mEq/L
   4.8 mEq/L
   26 mg/dL
   101 mEq/L
   136 mEq/L
   32.6 %
   14.5 K/uL
        [image002.jpg]
                             [**2108-3-10**]  05:35 PM
                             [**2108-3-11**]  05:52 AM
                             [**2108-3-12**]  05:43 AM
                             [**2108-3-13**]  05:39 AM
                             [**2108-3-14**]  04:40 AM
   WBC
   15.4
   13.7
   13.0
   13.2
   14.5
   Hct
   34.8
   32.6
   32.3
   32.2
   32.6
   Plt
   222
   223
   230
   290
   324
   Cr
   1.6
   1.5
   1.5
   1.3
   1.4
   Glucose
   95
   133
   114
   92
   99
   Other labs: PT / PTT / INR:15.1/85.2/1.3, Ca++:8.4 mg/dL, Mg++:2.3
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   52 yo male with history of morbid obesity, WPW, HTN, hyperlipidemia
   presents with A fib with RVR.
   # Tachycardia:  Some episodes of Aflutter on tele last night but no
   confirmatory EKG. With this rates into 120s. Otherwise rhythm most
   likely AVRT or A Fib with RVR and variable conduction. A possibility
   for concealed bypass tract exists.  Rate has improved with more pauses
   notable on tele over last several days.
   - transition to oral diltiazem.
   - decrease propanolol dose if does well with po dilt
   - Continue heparin drip for anticoagulation and continue bridge to
   coumadin
   - Will need cardioversion in future after coumadin therapeutic X3 weeks
   and then potentially an anti-arrhythmic to keep him in sinus rhythm
   - Pt has h/o VT. If pt has stable VT we will give lidocaine, if has AF
   with aberrancy will start procainimide. If unstable will DCCV.
   # [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]: Confirmed presence by Dr. [**Last Name (STitle) 5195**] after reviewing TEE
   from [**Hospital1 97**]
   - Continue Heparin drip with coumadin bridge until INR therapeutic
   - Will inc dose of coumadin today as has been 1.3 for INR for several
   days on the 5mg and given body habitus likely needs higher dose.
   # Febrile Illness: Presentation and CXR consistent with CAP.
   - Continue doxy/ctx (first dose [**2108-3-10**])
   - Urine cultures negative
   - F/U  Blood and sputum cultures
   - D/C Foley
   # Hashimoto's Thyroiditis: overtreatment with levoxyl. Following TFTs
   - restarting levothyroxine today or tomorrow
   - care with propanolol as it prevents conversion of T4 to T3.
   # Contact:  [**Name (NI) 288**] [**Last Name (NamePattern1) 253**], sister, HCP, [**Telephone/Fax (1) 5190**], [**Name2 (NI) **] [**Last Name (NamePattern1) 5191**],
   fiance [**Telephone/Fax (1) 5192**]
   ICU Care
   Nutrition: 2gm NA diet, will monitor electrolytes
   Glycemic Control:
   Lines: R IJ placed at [**Hospital1 97**]
   Multi Lumen - [**2108-3-10**] 05:02 PM
   Prophylaxis:
   DVT: Heparin drip + coumadin
   Stress ulcer: PO diet
   Communication:  with patient
   Code status: Full code
   Disposition: pending

2108-03-14 06:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2108-3-13**]:
   - Dilt 120mg PO QID started today
   - HR better controlled in 80's to 100's
   - Restarted home antihypertensives today as BP elevated, dyazide and
   lisinopril
   - In 2:1 A flutter at a rate of 120 from 1830 until 0300
   - Discontinued Dilt PO, increased dilt drip to 20
   - After back in a fib at rate of 80s-90s, added back PO dilt 120mg in
   attempt to wean off dilt drip
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-3-14**] 12:00 AM
   Infusions:
   Diltiazem - 15 mg/hour
   Heparin Sodium - 3,500 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-14**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.7
   HR: 95 (80 - 128) bpm
   BP: 126/72(80) {84/21(47) - 161/128(137)} mmHg
   RR: 16 (10 - 30) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 75 Inch
             Total In:
                                                                  2,225 mL
                                                                    506 mL
   PO:
                                                                    960 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,265 mL
                                                                    386 mL
   Blood products:
   Total out:
                                                                  4,570 mL
                                                                  1,180 mL
   Urine:
                                                                  4,570 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,345 mL
                                                                   -674 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   GENERAL: obese male in mild respiratory distress, able to speak in
   complete, however short, sentences, diaphoretic, flushed
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   NECK: Supple unable to appreciate JVP given habitus
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   irregularly irregular rhythm, tachycardic, normal S1, S2. No thrills,
   lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi, however difficult to appreciate secondary to habitus.
   ABDOMEN: Soft, obese NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: 2+ pitting edema to the thigh BL LE. No femoral bruits.
   SKIN: Stasis dermatitis BL, worse on left than right with redness worse
   on left than right, no ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1 PT 1
   Left: Carotid 2+ Femoral 2+ DP 1 PT 1
   Labs / Radiology
   324 K/uL
   11.0 g/dL
   99 mg/dL
   1.4 mg/dL
   24 mEq/L
   4.8 mEq/L
   26 mg/dL
   101 mEq/L
   136 mEq/L
   32.6 %
   14.5 K/uL
        [image002.jpg]
                             [**2108-3-10**]  05:35 PM
                             [**2108-3-11**]  05:52 AM
                             [**2108-3-12**]  05:43 AM
                             [**2108-3-13**]  05:39 AM
                             [**2108-3-14**]  04:40 AM
   WBC
   15.4
   13.7
   13.0
   13.2
   14.5
   Hct
   34.8
   32.6
   32.3
   32.2
   32.6
   Plt
   222
   223
   230
   290
   324
   Cr
   1.6
   1.5
   1.5
   1.3
   1.4
   Glucose
   95
   133
   114
   92
   99
   Other labs: PT / PTT / INR:15.1/85.2/1.3, Ca++:8.4 mg/dL, Mg++:2.3
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   52 yo male with history of morbid obesity, WPW, HTN, hyperlipidemia
   presents with A fib with RVR.
   # Tachycardia:  most likely AVRT or A Fib with RVR and variable
   conduction. A possibility for concealed bypass tract exists.  On dig
   ggt and propanolo at total of 600 mg daily. Rate improved with more
   pauses notable on tele.
   - transition to oral diltiazem
   - if no rate control will add digoxin
   - Continue heparin drip for anticoagulation.
   - Will need cardioversion in future after coumadin therapeutic X3 weeks
   and then potentially an anti-arrhythmic to keep him in sinus rhythm
   - Pt has h/o VT. If pt has stable VT we will give lidocaine, if has AF
   with aberrancy will start procainimide. If unstable will DCCV.
   # [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]: Confirmed presence by Dr. [**Last Name (STitle) 5195**] after reviewing TEE
   from [**Hospital1 97**]
   - Continue Heparin drip with coumadin bridge until INR therapeutic
   # Febrile Illness: Presentation and CXR consistent with CAP.
   - Continue doxy/ctx (first dose [**2108-3-10**])
   - Urine cultures negative
   - F/U  Blood and sputum cultures
   # Hashimoto's Thyroiditis: overtreatment with levoxyl. Following TFTs
   - resolved per endocrine, who also suggests restarting levothyroxine
   - care with propanolol as it prevents conversion of T4 to T3.
   # Hyperlipidemia:
   - Lipid studies with lipids at goal so no need for statin at this time
   given no h/o CAD or DM
   # Contact:  [**Name (NI) 288**] [**Last Name (NamePattern1) 253**], sister, HCP, [**Telephone/Fax (1) 5190**], [**Name2 (NI) **] [**Last Name (NamePattern1) 5191**],
   fiance [**Telephone/Fax (1) 5192**]
   ICU Care
   Nutrition: 2gm NA diet, will monitor electrolytes
   Glycemic Control:
   Lines: R IJ placed at [**Hospital1 97**]
   Multi Lumen - [**2108-3-10**] 05:02 PM
   Prophylaxis:
   DVT: Heparin drip + coumadin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-3-10**] 05:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2108-03-14 06:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2108-3-13**]:
   - Dilt 120mg PO QID started today
   - HR better controlled in 80's to 100's
   - Restarted home antihypertensives today as BP elevated, dyazide and
   lisinopril
   - In 2:1 A flutter at a rate of 120 from 1830 until 0300
   - Discontinued Dilt PO, increased dilt drip to 20
   - After back in a fib at rate of 80s-90s, added back PO dilt 120mg in
   attempt to wean off dilt drip
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-3-14**] 12:00 AM
   Infusions:
   Diltiazem - 15 mg/hour
   Heparin Sodium - 3,500 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-14**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.7
   HR: 95 (80 - 128) bpm
   BP: 126/72(80) {84/21(47) - 161/128(137)} mmHg
   RR: 16 (10 - 30) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 75 Inch
             Total In:
                                                                  2,225 mL
                                                                    506 mL
   PO:
                                                                    960 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,265 mL
                                                                    386 mL
   Blood products:
   Total out:
                                                                  4,570 mL
                                                                  1,180 mL
   Urine:
                                                                  4,570 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,345 mL
                                                                   -674 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   324 K/uL
   11.0 g/dL
   99 mg/dL
   1.4 mg/dL
   24 mEq/L
   4.8 mEq/L
   26 mg/dL
   101 mEq/L
   136 mEq/L
   32.6 %
   14.5 K/uL
        [image002.jpg]
                             [**2108-3-10**]  05:35 PM
                             [**2108-3-11**]  05:52 AM
                             [**2108-3-12**]  05:43 AM
                             [**2108-3-13**]  05:39 AM
                             [**2108-3-14**]  04:40 AM
   WBC
   15.4
   13.7
   13.0
   13.2
   14.5
   Hct
   34.8
   32.6
   32.3
   32.2
   32.6
   Plt
   222
   223
   230
   290
   324
   Cr
   1.6
   1.5
   1.5
   1.3
   1.4
   Glucose
   95
   133
   114
   92
   99
   Other labs: PT / PTT / INR:15.1/85.2/1.3, Ca++:8.4 mg/dL, Mg++:2.3
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ATRIAL FIBRILLATION (AFIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-3-10**] 05:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2108-03-14 06:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2108-3-13**]:
   - Dilt 120mg PO QID started today
   - HR better controlled in 80's to 100's
   - Restarted home antihypertensives today as BP elevated, dyazide and
   lisinopril
   - In 2:1 A flutter at a rate of 120 from 1830 until 0300
   - Discontinued Dilt PO, increased dilt drip to 20
   - After back in a fib at rate of 80s-90s, added back PO dilt 120mg in
   attempt to wean off dilt drip
   S: c/o cough X 1 year. No hemoptysis. Feels like gunk pools at back of
   throat. Also would like stool softener.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-3-14**] 12:00 AM
   Infusions:
   Diltiazem - 15 mg/hour
   Heparin Sodium - 3,500 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-14**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.7
   HR: 95 (80 - 128) bpm
   BP: 126/72(80) {84/21(47) - 161/128(137)} mmHg
   RR: 16 (10 - 30) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 75 Inch
             Total In:
                                                                  2,225 mL
                                                                    506 mL
   PO:
                                                                    960 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,265 mL
                                                                    386 mL
   Blood products:
   Total out:
                                                                  4,570 mL
                                                                  1,180 mL
   Urine:
                                                                  4,570 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,345 mL
                                                                   -674 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   GENERAL: obese male NAD, not diaphoretic
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   NECK: Supple unable to appreciate JVP given habitus
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   irregularly irregular rhythm, tachycardic, normal S1, S2. No thrills,
   lifts. No S3 or S4.
   LUNGS: Resp were unlabored, no accessory muscle use. Wheezing on
   expiration left upper lobe
   ABDOMEN: Soft, obese NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: 2+ pitting edema to the thigh BL LE. No femoral bruits.
   SKIN: Stasis dermatitis BL, worse on left than right with redness worse
   on left than right, no ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1 PT 1
   Left: Carotid 2+ Femoral 2+ DP 1 PT 1
   Labs / Radiology
   324 K/uL
   11.0 g/dL
   99 mg/dL
   1.4 mg/dL
   24 mEq/L
   4.8 mEq/L
   26 mg/dL
   101 mEq/L
   136 mEq/L
   32.6 %
   14.5 K/uL
        [image002.jpg]
                             [**2108-3-10**]  05:35 PM
                             [**2108-3-11**]  05:52 AM
                             [**2108-3-12**]  05:43 AM
                             [**2108-3-13**]  05:39 AM
                             [**2108-3-14**]  04:40 AM
   WBC
   15.4
   13.7
   13.0
   13.2
   14.5
   Hct
   34.8
   32.6
   32.3
   32.2
   32.6
   Plt
   222
   223
   230
   290
   324
   Cr
   1.6
   1.5
   1.5
   1.3
   1.4
   Glucose
   95
   133
   114
   92
   99
   Other labs: PT / PTT / INR:15.1/85.2/1.3, Ca++:8.4 mg/dL, Mg++:2.3
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   52 yo male with history of morbid obesity, WPW, HTN, hyperlipidemia
   presents with A fib with RVR.
   # Tachycardia:  Some episodes of Aflutter on tele last night but no
   confirmatory EKG. With this rates into 120s. Otherwise rhythm most
   likely AVRT or A Fib with RVR and variable conduction. A possibility
   for concealed bypass tract exists.  Rate has improved with more pauses
   notable on tele over last several days.
   - On dilt ggt and propanolol at total of 660 mg daily.
   - transition to oral diltiazem
   - if not able to wean dilt and keep rate controlled will add digoxin
   - Continue heparin drip for anticoagulation and continue bridge to
   coumadin
   - Will need cardioversion in future after coumadin therapeutic X3 weeks
   and then potentially an anti-arrhythmic to keep him in sinus rhythm
   - As has evidence of possible Aflutter may also benefit from ablation
   in the future
   - Pt has h/o VT. If pt has stable VT we will give lidocaine, if has AF
   with aberrancy will start procainimide. If unstable will DCCV.
   # [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]: Confirmed presence by Dr. [**Last Name (STitle) 5195**] after reviewing TEE
   from [**Hospital1 97**]
   -          Continue Heparin drip with coumadin bridge until INR
   therapeutic
   -          Will inc dose of coumadin today as has been 1.3 for INR for
   several days on the 5mg and given body habitus likely needs higher
   dose.
   # Febrile Illness: Presentation and CXR consistent with CAP.
   - Continue doxy/ctx (first dose [**2108-3-10**])
   - Urine cultures negative
   - F/U  Blood and sputum cultures
   - D/C Foley
   # Hashimoto's Thyroiditis: overtreatment with levoxyl. Following TFTs
   - resolved per endocrine, who also suggests restarting levothyroxine
   today or tomorrow
   - care with propanolol as it prevents conversion of T4 to T3.
   # Contact:  [**Name (NI) 288**] [**Last Name (NamePattern1) 253**], sister, HCP, [**Telephone/Fax (1) 5190**], [**Name2 (NI) **] [**Last Name (NamePattern1) 5191**],
   fiance [**Telephone/Fax (1) 5192**]
   ICU Care
   Nutrition: 2gm NA diet, will monitor electrolytes
   Glycemic Control:
   Lines: R IJ placed at [**Hospital1 97**]
   Multi Lumen - [**2108-3-10**] 05:02 PM
   Prophylaxis:
   DVT: Heparin drip + coumadin
   Stress ulcer: PO diet
   Communication:  with patient
   Code status: Full code
   Disposition: pending

2108-03-14 06:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2108-3-13**]:
   - Dilt 120mg PO QID started today
   - HR better controlled in 80's to 100's
   - Restarted home antihypertensives today as BP elevated, dyazide and
   lisinopril
   - In 2:1 A flutter at a rate of 120 from 1830 until 0300
   - Discontinued Dilt PO, increased dilt drip to 20
   - After back in a fib at rate of 80s-90s, added back PO dilt 120mg in
   attempt to wean off dilt drip
   S: c/o cough X 1 year. No hemoptysis. Feels like gunk pools at back of
   throat. Also would like stool softener.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-3-14**] 12:00 AM
   Infusions:
   Diltiazem - 15 mg/hour
   Heparin Sodium - 3,500 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-14**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.7
   HR: 95 (80 - 128) bpm
   BP: 126/72(80) {84/21(47) - 161/128(137)} mmHg
   RR: 16 (10 - 30) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 75 Inch
             Total In:
                                                                  2,225 mL
                                                                    506 mL
   PO:
                                                                    960 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,265 mL
                                                                    386 mL
   Blood products:
   Total out:
                                                                  4,570 mL
                                                                  1,180 mL
   Urine:
                                                                  4,570 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,345 mL
                                                                   -674 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   GENERAL: obese male NAD, not diaphoretic
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   NECK: Supple unable to appreciate JVP given habitus
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   irregularly irregular rhythm, tachycardic, normal S1, S2. No thrills,
   lifts. No S3 or S4.
   LUNGS: Resp were unlabored, no accessory muscle use. Wheezing on
   expiration left upper lobe
   ABDOMEN: Soft, obese NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: 2+ pitting edema to the thigh BL LE. No femoral bruits.
   SKIN: Stasis dermatitis BL, worse on left than right with redness worse
   on left than right, no ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1 PT 1
   Left: Carotid 2+ Femoral 2+ DP 1 PT 1
   Labs / Radiology
   324 K/uL
   11.0 g/dL
   99 mg/dL
   1.4 mg/dL
   24 mEq/L
   4.8 mEq/L
   26 mg/dL
   101 mEq/L
   136 mEq/L
   32.6 %
   14.5 K/uL
        [image002.jpg]
                             [**2108-3-10**]  05:35 PM
                             [**2108-3-11**]  05:52 AM
                             [**2108-3-12**]  05:43 AM
                             [**2108-3-13**]  05:39 AM
                             [**2108-3-14**]  04:40 AM
   WBC
   15.4
   13.7
   13.0
   13.2
   14.5
   Hct
   34.8
   32.6
   32.3
   32.2
   32.6
   Plt
   222
   223
   230
   290
   324
   Cr
   1.6
   1.5
   1.5
   1.3
   1.4
   Glucose
   95
   133
   114
   92
   99
   Other labs: PT / PTT / INR:15.1/85.2/1.3, Ca++:8.4 mg/dL, Mg++:2.3
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   52 yo male with history of morbid obesity, WPW, HTN, hyperlipidemia
   presents with A fib with RVR.
   # Tachycardia:  Some episodes of Aflutter on tele last night but no
   confirmatory EKG. With this rates into 120s. Otherwise rhythm most
   likely AVRT or A Fib with RVR and variable conduction. A possibility
   for concealed bypass tract exists.  Rate has improved with more pauses
   notable on tele over last several days.
   - transition to oral diltiazem.
   - decrease propanolol dose if does well with po dilt
   - Continue heparin drip for anticoagulation and continue bridge to
   coumadin
   - Will need cardioversion in future after coumadin therapeutic X3 weeks
   and then potentially an anti-arrhythmic to keep him in sinus rhythm
   - Pt has h/o VT. If pt has stable VT we will give lidocaine, if has AF
   with aberrancy will start procainimide. If unstable will DCCV.
   # [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]: Confirmed presence by Dr. [**Last Name (STitle) 5195**] after reviewing TEE
   from [**Hospital1 97**]
   - Continue Heparin drip with coumadin bridge until INR therapeutic
   - Will inc dose of coumadin today as has been 1.3 for INR for several
   days on the 5mg and given body habitus likely needs higher dose.
   # Febrile Illness: Presentation and CXR consistent with CAP.
   - Continue doxy/ctx (first dose [**2108-3-10**])
   - Urine cultures negative
   - F/U  Blood and sputum cultures
   - D/C Foley
   # Hashimoto's Thyroiditis: overtreatment with levoxyl. Following TFTs
   - restarting levothyroxine today or tomorrow
   - care with propanolol as it prevents conversion of T4 to T3.
   # Contact:  [**Name (NI) 288**] [**Last Name (NamePattern1) 253**], sister, HCP, [**Telephone/Fax (1) 5190**], [**Name2 (NI) **] [**Last Name (NamePattern1) 5191**],
   fiance [**Telephone/Fax (1) 5192**]
   ICU Care
   Nutrition: 2gm NA diet, will monitor electrolytes
   Glycemic Control:
   Lines: R IJ placed at [**Hospital1 97**]
   Multi Lumen - [**2108-3-10**] 05:02 PM
   Prophylaxis:
   DVT: Heparin drip + coumadin
   Stress ulcer: PO diet
   Communication:  with patient
   Code status: Full code
   Disposition: pending
   ------ Protected Section ------
   Reviewed overnight data and has not had a setback.
   This AM spontaneously converted to SR and at slow rate has WPW .
   Stable.Would transfer to floor, Obtain TEE pre discharge.
   Will consider Catheter ablation of WPW tract in future.
   Spent 35 mins over case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2108-3-14**] 13:03 ------

2108-03-15 05:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Converted to sinus with evidence of bypass tract when going slow.
   - HRs remained 50s-60. Got 80mg Propranolol at 4pm.
   - Made NPO for TEE to eval for clot in [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 429**]:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-3-14**] 12:00 AM
   Infusions:
   Heparin Sodium - 3,500 units/hour
   Other ICU medications:
   Coumadin (Warfarin) - [**2108-3-14**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-15**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.7
C (96.3
   HR: 65 (52 - 129) bpm
   BP: 107/52(64) {91/11(41) - 142/102(107)} mmHg
   RR: 19 (13 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 75 Inch
             Total In:
                                                                  3,402 mL
                                                                    238 mL
   PO:
                                                                  2,230 mL
             TF:
   IVF:
                                                                  1,172 mL
                                                                    238 mL
   Blood products:
   Total out:
                                                                  3,635 mL
                                                                  1,100 mL
   Urine:
                                                                  3,635 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -233 mL
                                                                   -862 mL
   Respiratory support
   O2 Delivery Device: None, Bipap mask
   SpO2: 95%
   ABG: ////
   Physical Examination
   GENERAL: obese male NAD, not diaphoretic
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   NECK: Supple unable to appreciate JVP given habitus
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   irregularly irregular rhythm, tachycardic, normal S1, S2. No thrills,
   lifts. No S3 or S4.
   LUNGS: Resp were unlabored, no accessory muscle use. Wheezing on
   expiration left upper lobe
   ABDOMEN: Soft, obese NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: 2+ pitting edema to the thigh BL LE. No femoral bruits.
   SKIN: Stasis dermatitis BL, worse on left than right with redness worse
   on left than right, no ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1 PT 1
   Left: Carotid 2+ Femoral 2+ DP 1 PT 1
   Labs / Radiology
   342 K/uL
   11.5 g/dL
   99 mg/dL
   1.5 mg/dL
   27 mEq/L
   4.6 mEq/L
   24 mg/dL
   101 mEq/L
   136 mEq/L
   34.2 %
   16.5 K/uL
        [image002.jpg]
                             [**2108-3-10**]  05:35 PM
                             [**2108-3-11**]  05:52 AM
                             [**2108-3-12**]  05:43 AM
                             [**2108-3-13**]  05:39 AM
                             [**2108-3-14**]  04:40 AM
                             [**2108-3-15**]  05:17 AM
   WBC
   15.4
   13.7
   13.0
   13.2
   14.5
   16.5
   Hct
   34.8
   32.6
   32.3
   32.2
   32.6
   34.2
   Plt
   222
   223
   230
   290
   324
   342
   Cr
   1.6
   1.5
   1.5
   1.3
   1.4
   Glucose
   95
   133
   114
   92
   99
   Other labs: PT / PTT / INR:15.1/85.2/1.3, Ca++:8.4 mg/dL, Mg++:2.3
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   52 yo male with history of morbid obesity, WPW, HTN, hyperlipidemia
   presents with A fib with RVR.
   .
   # Tachycardia:  Resolved,  The patient went into A flutter from a fib
   two nights ago, then converted into sinus rhythm on his own.  The sinus
   rhythm was in the 40-50s initially with very clear signs of WPW,
   posterior right septal bypass tract.
   - Turned off dilt drip, continues to be in sinus, but now narrow
   - decreased propanolol dose to 80 TID yesterday tolerating well
   - Continue heparin drip for anticoagulation and continue bridge to
   coumadin
   - Will require EP study for ablation of WPW bypass tract as an
   outpatient
   # [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]: Confirmed presence by Dr. [**Last Name (STitle) 5195**] after reviewing TEE
   from [**Hospital1 97**]
   - Continue Heparin drip with coumadin bridge until INR therapeutic
   - Increased coumadin to 10mg yesterday
   - Repeat TEE today to confirm presence of thrombus
   .
   # Febrile Illness: Presentation and CXR consistent with CAP.
   - Continue doxy/ctx (first dose [**2108-3-10**]), day 5 of 7
   - Urine cultures negative, however foley pulled, some hematuria
   - F/U  Blood and sputum cultures, negative to date
   - D/Ced Foley
   .
   # Hashimoto's Thyroiditis: overtreatment with levoxyl. Following TFTs
   - restarting levothyroxine today
   - care with propanolol as it prevents conversion of T4 to T3.
   # Contact:  [**Name (NI) 288**] [**Last Name (NamePattern1) 253**], sister, HCP, [**Telephone/Fax (1) 5190**], [**Name2 (NI) **] [**Last Name (NamePattern1) 5191**],
   fiance [**Telephone/Fax (1) 5192**]
   ICU Care
   Nutrition: 2gm NA diet, will monitor electrolytes
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-3-10**] 05:02 PM
 plan to DC today
   Prophylaxis:
   DVT:  Heparin drip with coumadin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending TEE results
   ------ Protected Section ------
   Reviewed Pt course and overnight stability.Examined Pt
   Agree with plan of management.
   Will await TEE before discharge so as to decide on long term Rx.
   Spent  45mins over case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2108-3-15**] 18:13 ------

2108-03-15 05:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Converted to sinus with evidence of bypass tract when going slow.
   - HRs remained 50s-60. Got 80mg Propranolol at 4pm.
   - Made NPO for TEE to eval for clot in [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 429**]:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-3-14**] 12:00 AM
   Infusions:
   Heparin Sodium - 3,500 units/hour
   Other ICU medications:
   Coumadin (Warfarin) - [**2108-3-14**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-15**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.7
C (96.3
   HR: 65 (52 - 129) bpm
   BP: 107/52(64) {91/11(41) - 142/102(107)} mmHg
   RR: 19 (13 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 75 Inch
             Total In:
                                                                  3,402 mL
                                                                    238 mL
   PO:
                                                                  2,230 mL
             TF:
   IVF:
                                                                  1,172 mL
                                                                    238 mL
   Blood products:
   Total out:
                                                                  3,635 mL
                                                                  1,100 mL
   Urine:
                                                                  3,635 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -233 mL
                                                                   -862 mL
   Respiratory support
   O2 Delivery Device: None, Bipap mask
   SpO2: 95%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   342 K/uL
   11.5 g/dL
   99 mg/dL
   1.4 mg/dL
   24 mEq/L
   4.8 mEq/L
   26 mg/dL
   101 mEq/L
   136 mEq/L
   34.2 %
   16.5 K/uL
        [image002.jpg]
                             [**2108-3-10**]  05:35 PM
                             [**2108-3-11**]  05:52 AM
                             [**2108-3-12**]  05:43 AM
                             [**2108-3-13**]  05:39 AM
                             [**2108-3-14**]  04:40 AM
                             [**2108-3-15**]  05:17 AM
   WBC
   15.4
   13.7
   13.0
   13.2
   14.5
   16.5
   Hct
   34.8
   32.6
   32.3
   32.2
   32.6
   34.2
   Plt
   222
   223
   230
   290
   324
   342
   Cr
   1.6
   1.5
   1.5
   1.3
   1.4
   Glucose
   95
   133
   114
   92
   99
   Other labs: PT / PTT / INR:15.1/85.2/1.3, Ca++:8.4 mg/dL, Mg++:2.3
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   52 yo male with history of morbid obesity, WPW, HTN, hyperlipidemia
   presents with A fib with RVR.
   # Tachycardia:  Some episodes of Aflutter on tele last night but no
   confirmatory EKG. With this rates into 120s. Otherwise rhythm most
   likely AVRT or A Fib with RVR and variable conduction. A possibility
   for concealed bypass tract exists.  Rate has improved with more pauses
   notable on tele over last several days.
   - transition to oral diltiazem.
   - decrease propanolol dose if does well with po dilt
   - Continue heparin drip for anticoagulation and continue bridge to
   coumadin
   - Will need cardioversion in future after coumadin therapeutic X3 weeks
   and then potentially an anti-arrhythmic to keep him in sinus rhythm
   - Pt has h/o VT. If pt has stable VT we will give lidocaine, if has AF
   with aberrancy will start procainimide. If unstable will DCCV.
   # [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]: Confirmed presence by Dr. [**Last Name (STitle) 5195**] after reviewing TEE
   from [**Hospital1 97**]
   - Continue Heparin drip with coumadin bridge until INR therapeutic
   - Will inc dose of coumadin today as has been 1.3 for INR for several
   days on the 5mg and given body habitus likely needs higher dose.
   # Febrile Illness: Presentation and CXR consistent with CAP.
   - Continue doxy/ctx (first dose [**2108-3-10**])
   - Urine cultures negative
   - F/U  Blood and sputum cultures
   - D/C Foley
   # Hashimoto's Thyroiditis: overtreatment with levoxyl. Following TFTs
   - restarting levothyroxine today or tomorrow
   - care with propanolol as it prevents conversion of T4 to T3.
   # Contact:  [**Name (NI) 288**] [**Last Name (NamePattern1) 253**], sister, HCP, [**Telephone/Fax (1) 5190**], [**Name2 (NI) **] [**Last Name (NamePattern1) 5191**],
   fiance [**Telephone/Fax (1) 5192**]
   ICU Care
   Nutrition: 2gm NA diet, will monitor electrolytes
   Glycemic Control:
   Lines: R IJ placed at [**Hospital1 97**]
   Multi Lumen - [**2108-3-10**] 05:02 PM
   Prophylaxis:
   DVT: Heparin drip + coumadin
   Stress ulcer: PO diet
   Communication:  with patient
   Code status: Full code
   Disposition: pending
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-3-10**] 05:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2108-03-15 05:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Converted to sinus with evidence of bypass tract when going slow.
   - HRs remained 50s-60. Got 80mg Propranolol at 4pm.
   - Made NPO for TEE to eval for clot in [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 429**]:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-3-14**] 12:00 AM
   Infusions:
   Heparin Sodium - 3,500 units/hour
   Other ICU medications:
   Coumadin (Warfarin) - [**2108-3-14**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-15**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.7
C (96.3
   HR: 65 (52 - 129) bpm
   BP: 107/52(64) {91/11(41) - 142/102(107)} mmHg
   RR: 19 (13 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 75 Inch
             Total In:
                                                                  3,402 mL
                                                                    238 mL
   PO:
                                                                  2,230 mL
             TF:
   IVF:
                                                                  1,172 mL
                                                                    238 mL
   Blood products:
   Total out:
                                                                  3,635 mL
                                                                  1,100 mL
   Urine:
                                                                  3,635 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -233 mL
                                                                   -862 mL
   Respiratory support
   O2 Delivery Device: None, Bipap mask
   SpO2: 95%
   ABG: ////
   Physical Examination
   GENERAL: obese male NAD, not diaphoretic
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   NECK: Supple unable to appreciate JVP given habitus
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   irregularly irregular rhythm, tachycardic, normal S1, S2. No thrills,
   lifts. No S3 or S4.
   LUNGS: Resp were unlabored, no accessory muscle use. Wheezing on
   expiration left upper lobe
   ABDOMEN: Soft, obese NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: 2+ pitting edema to the thigh BL LE. No femoral bruits.
   SKIN: Stasis dermatitis BL, worse on left than right with redness worse
   on left than right, no ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1 PT 1
   Left: Carotid 2+ Femoral 2+ DP 1 PT 1
   Labs / Radiology
   342 K/uL
   11.5 g/dL
   99 mg/dL
   1.4 mg/dL
   24 mEq/L
   4.8 mEq/L
   26 mg/dL
   101 mEq/L
   136 mEq/L
   34.2 %
   16.5 K/uL
        [image002.jpg]
                             [**2108-3-10**]  05:35 PM
                             [**2108-3-11**]  05:52 AM
                             [**2108-3-12**]  05:43 AM
                             [**2108-3-13**]  05:39 AM
                             [**2108-3-14**]  04:40 AM
                             [**2108-3-15**]  05:17 AM
   WBC
   15.4
   13.7
   13.0
   13.2
   14.5
   16.5
   Hct
   34.8
   32.6
   32.3
   32.2
   32.6
   34.2
   Plt
   222
   223
   230
   290
   324
   342
   Cr
   1.6
   1.5
   1.5
   1.3
   1.4
   Glucose
   95
   133
   114
   92
   99
   Other labs: PT / PTT / INR:15.1/85.2/1.3, Ca++:8.4 mg/dL, Mg++:2.3
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   52 yo male with history of morbid obesity, WPW, HTN, hyperlipidemia
   presents with A fib with RVR.
   # Tachycardia:  Some episodes of Aflutter on tele last night but no
   confirmatory EKG. With this rates into 120s. Otherwise rhythm most
   likely AVRT or A Fib with RVR and variable conduction. A possibility
   for concealed bypass tract exists.  Rate has improved with more pauses
   notable on tele over last several days.
   - transition to oral diltiazem.
   - decrease propanolol dose if does well with po dilt
   - Continue heparin drip for anticoagulation and continue bridge to
   coumadin
   - Will need cardioversion in future after coumadin therapeutic X3 weeks
   and then potentially an anti-arrhythmic to keep him in sinus rhythm
   - Pt has h/o VT. If pt has stable VT we will give lidocaine, if has AF
   with aberrancy will start procainimide. If unstable will DCCV.
   # [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]: Confirmed presence by Dr. [**Last Name (STitle) 5195**] after reviewing TEE
   from [**Hospital1 97**]
   - Continue Heparin drip with coumadin bridge until INR therapeutic
   - Will inc dose of coumadin today as has been 1.3 for INR for several
   days on the 5mg and given body habitus likely needs higher dose.
   # Febrile Illness: Presentation and CXR consistent with CAP.
   - Continue doxy/ctx (first dose [**2108-3-10**])
   - Urine cultures negative
   - F/U  Blood and sputum cultures
   - D/C Foley
   # Hashimoto's Thyroiditis: overtreatment with levoxyl. Following TFTs
   - restarting levothyroxine today or tomorrow
   - care with propanolol as it prevents conversion of T4 to T3.
   # Contact:  [**Name (NI) 288**] [**Last Name (NamePattern1) 253**], sister, HCP, [**Telephone/Fax (1) 5190**], [**Name2 (NI) **] [**Last Name (NamePattern1) 5191**],
   fiance [**Telephone/Fax (1) 5192**]
   ICU Care
   Nutrition: 2gm NA diet, will monitor electrolytes
   Glycemic Control:
   Lines: R IJ placed at [**Hospital1 97**]
   Multi Lumen - [**2108-3-10**] 05:02 PM
   Prophylaxis:
   DVT: Heparin drip + coumadin
   Stress ulcer: PO diet
   Communication:  with patient
   Code status: Full code
   Disposition: pending
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-3-10**] 05:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2108-03-15 05:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Converted to sinus with evidence of bypass tract when going slow.
   - HRs remained 50s-60. Got 80mg Propranolol at 4pm.
   - Made NPO for TEE to eval for clot in [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 429**]:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-3-14**] 12:00 AM
   Infusions:
   Heparin Sodium - 3,500 units/hour
   Other ICU medications:
   Coumadin (Warfarin) - [**2108-3-14**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-15**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.7
C (96.3
   HR: 65 (52 - 129) bpm
   BP: 107/52(64) {91/11(41) - 142/102(107)} mmHg
   RR: 19 (13 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 75 Inch
             Total In:
                                                                  3,402 mL
                                                                    238 mL
   PO:
                                                                  2,230 mL
             TF:
   IVF:
                                                                  1,172 mL
                                                                    238 mL
   Blood products:
   Total out:
                                                                  3,635 mL
                                                                  1,100 mL
   Urine:
                                                                  3,635 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -233 mL
                                                                   -862 mL
   Respiratory support
   O2 Delivery Device: None, Bipap mask
   SpO2: 95%
   ABG: ////
   Physical Examination
   GENERAL: obese male NAD, not diaphoretic
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   NECK: Supple unable to appreciate JVP given habitus
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   irregularly irregular rhythm, tachycardic, normal S1, S2. No thrills,
   lifts. No S3 or S4.
   LUNGS: Resp were unlabored, no accessory muscle use. Wheezing on
   expiration left upper lobe
   ABDOMEN: Soft, obese NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: 2+ pitting edema to the thigh BL LE. No femoral bruits.
   SKIN: Stasis dermatitis BL, worse on left than right with redness worse
   on left than right, no ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1 PT 1
   Left: Carotid 2+ Femoral 2+ DP 1 PT 1
   Labs / Radiology
   342 K/uL
   11.5 g/dL
   99 mg/dL
   1.5 mg/dL
   27 mEq/L
   4.6 mEq/L
   24 mg/dL
   101 mEq/L
   136 mEq/L
   34.2 %
   16.5 K/uL
        [image002.jpg]
                             [**2108-3-10**]  05:35 PM
                             [**2108-3-11**]  05:52 AM
                             [**2108-3-12**]  05:43 AM
                             [**2108-3-13**]  05:39 AM
                             [**2108-3-14**]  04:40 AM
                             [**2108-3-15**]  05:17 AM
   WBC
   15.4
   13.7
   13.0
   13.2
   14.5
   16.5
   Hct
   34.8
   32.6
   32.3
   32.2
   32.6
   34.2
   Plt
   222
   223
   230
   290
   324
   342
   Cr
   1.6
   1.5
   1.5
   1.3
   1.4
   Glucose
   95
   133
   114
   92
   99
   Other labs: PT / PTT / INR:15.1/85.2/1.3, Ca++:8.4 mg/dL, Mg++:2.3
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   52 yo male with history of morbid obesity, WPW, HTN, hyperlipidemia
   presents with A fib with RVR.
   .
   # Tachycardia:  Resolved,  The patient went into A flutter from a fib
   two nights ago, then converted into sinus rhythm on his own.  The sinus
   rhythm was in the 40-50s initially with very clear signs of WPW,
   posterior right septal bypass tract.
   - Turned off dilt drip, continues to be in sinus, but now narrow
   - decreased propanolol dose to 80 TID
   - Continue heparin drip for anticoagulation and continue bridge to
   coumadin
   - Will require EP study for ablation of WPW bypass tract as an
   outpatient
   # [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]: Confirmed presence by Dr. [**Last Name (STitle) 5195**] after reviewing TEE
   from [**Hospital1 97**]
   - Continue Heparin drip with coumadin bridge until INR therapeutic
   - Increased coumadin to 10mg yesterday
   - Repeat TEE today to confirm presence of thrombus
   .
   # Febrile Illness: Presentation and CXR consistent with CAP.
   - Continue doxy/ctx (first dose [**2108-3-10**]), day 5 of 7
   - Urine cultures negative
   - F/U  Blood and sputum cultures
   - D/C Foley
   .
   # Hashimoto's Thyroiditis: overtreatment with levoxyl. Following TFTs
   - restarting levothyroxine today
   - care with propanolol as it prevents conversion of T4 to T3.
   # Contact:  [**Name (NI) 288**] [**Last Name (NamePattern1) 253**], sister, HCP, [**Telephone/Fax (1) 5190**], [**Name2 (NI) **] [**Last Name (NamePattern1) 5191**],
   fiance [**Telephone/Fax (1) 5192**]
   ICU Care
   Nutrition: 2gm NA diet, will monitor electrolytes
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-3-10**] 05:02 PM
 plan to DC today
   Prophylaxis:
   DVT:  Heparin drip with coumadin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending TEE results

2108-03-15 05:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Converted to sinus with evidence of bypass tract when going slow.
   - HRs remained 50s-60. Got 80mg Propranolol at 4pm.
   - Made NPO for TEE to eval for clot in [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 429**]:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2108-3-14**] 12:00 AM
   Infusions:
   Heparin Sodium - 3,500 units/hour
   Other ICU medications:
   Coumadin (Warfarin) - [**2108-3-14**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-15**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.7
C (96.3
   HR: 65 (52 - 129) bpm
   BP: 107/52(64) {91/11(41) - 142/102(107)} mmHg
   RR: 19 (13 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 75 Inch
             Total In:
                                                                  3,402 mL
                                                                    238 mL
   PO:
                                                                  2,230 mL
             TF:
   IVF:
                                                                  1,172 mL
                                                                    238 mL
   Blood products:
   Total out:
                                                                  3,635 mL
                                                                  1,100 mL
   Urine:
                                                                  3,635 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -233 mL
                                                                   -862 mL
   Respiratory support
   O2 Delivery Device: None, Bipap mask
   SpO2: 95%
   ABG: ////
   Physical Examination
   GENERAL: obese male NAD, not diaphoretic
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   NECK: Supple unable to appreciate JVP given habitus
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   irregularly irregular rhythm, tachycardic, normal S1, S2. No thrills,
   lifts. No S3 or S4.
   LUNGS: Resp were unlabored, no accessory muscle use. Wheezing on
   expiration left upper lobe
   ABDOMEN: Soft, obese NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: 2+ pitting edema to the thigh BL LE. No femoral bruits.
   SKIN: Stasis dermatitis BL, worse on left than right with redness worse
   on left than right, no ulcers, scars.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1 PT 1
   Left: Carotid 2+ Femoral 2+ DP 1 PT 1
   Labs / Radiology
   342 K/uL
   11.5 g/dL
   99 mg/dL
   1.5 mg/dL
   27 mEq/L
   4.6 mEq/L
   24 mg/dL
   101 mEq/L
   136 mEq/L
   34.2 %
   16.5 K/uL
        [image002.jpg]
                             [**2108-3-10**]  05:35 PM
                             [**2108-3-11**]  05:52 AM
                             [**2108-3-12**]  05:43 AM
                             [**2108-3-13**]  05:39 AM
                             [**2108-3-14**]  04:40 AM
                             [**2108-3-15**]  05:17 AM
   WBC
   15.4
   13.7
   13.0
   13.2
   14.5
   16.5
   Hct
   34.8
   32.6
   32.3
   32.2
   32.6
   34.2
   Plt
   222
   223
   230
   290
   324
   342
   Cr
   1.6
   1.5
   1.5
   1.3
   1.4
   Glucose
   95
   133
   114
   92
   99
   Other labs: PT / PTT / INR:15.1/85.2/1.3, Ca++:8.4 mg/dL, Mg++:2.3
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   52 yo male with history of morbid obesity, WPW, HTN, hyperlipidemia
   presents with A fib with RVR.
   .
   # Tachycardia:  Resolved,  The patient went into A flutter from a fib
   two nights ago, then converted into sinus rhythm on his own.  The sinus
   rhythm was in the 40-50s initially with very clear signs of WPW,
   posterior right septal bypass tract.
   - Turned off dilt drip, continues to be in sinus, but now narrow
   - decreased propanolol dose to 80 TID yesterday tolerating well
   - Continue heparin drip for anticoagulation and continue bridge to
   coumadin
   - Will require EP study for ablation of WPW bypass tract as an
   outpatient
   # [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]: Confirmed presence by Dr. [**Last Name (STitle) 5195**] after reviewing TEE
   from [**Hospital1 97**]
   - Continue Heparin drip with coumadin bridge until INR therapeutic
   - Increased coumadin to 10mg yesterday
   - Repeat TEE today to confirm presence of thrombus
   .
   # Febrile Illness: Presentation and CXR consistent with CAP.
   - Continue doxy/ctx (first dose [**2108-3-10**]), day 5 of 7
   - Urine cultures negative, however foley pulled, some hematuria
   - F/U  Blood and sputum cultures, negative to date
   - D/Ced Foley
   .
   # Hashimoto's Thyroiditis: overtreatment with levoxyl. Following TFTs
   - restarting levothyroxine today
   - care with propanolol as it prevents conversion of T4 to T3.
   # Contact:  [**Name (NI) 288**] [**Last Name (NamePattern1) 253**], sister, HCP, [**Telephone/Fax (1) 5190**], [**Name2 (NI) **] [**Last Name (NamePattern1) 5191**],
   fiance [**Telephone/Fax (1) 5192**]
   ICU Care
   Nutrition: 2gm NA diet, will monitor electrolytes
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-3-10**] 05:02 PM
 plan to DC today
   Prophylaxis:
   DVT:  Heparin drip with coumadin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending TEE results